2198-05-24 07:15:00 Physician Resident Progress Note
24 Hour Events:
   - CE neg x 3
   - echo LVH, nl EF, mod pulm artery HTN c/ mod R ventricle enlargement
   - lasix 20 mg x 1
   - sputum gram stain 4 + GNRs
   - Vancomycin discontinued
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-5-23**] 09:00 AM
   Piperacillin - [**2198-5-23**] 05:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-24**] 12:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-5-23**] 06:59 PM
   Heparin Sodium (Prophylaxis) - [**2198-5-24**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-24**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 57 (45 - 67) bpm
   BP: 95/36(51) {85/36(51) - 130/64(73)} mmHg
   RR: 23 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
    CVP: -1 (-1 - 11)mmHg
   SvO2: 68%
   Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                  8,015 mL
                                                                    172 mL
   PO:
   TF:
   IVF:
                                                                  3,915 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    435 mL
   Urine:
                                                                  2,585 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,430 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 411 (373 - 411) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/48/103/26/2
   Ve: 9 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Responsive to commands
   HEENT:  PERRLA, EOMI, clear OP, MMM
   Neck:  supple
   CV:  RRR, -m/r/g, nl S1/S2
   Lungs:  slightly wheezing, otherwise relatively clear
   Abd:  S/NT/ND/nabs, -HSM
   Ext: -c/c/e, warm/well perfused
   Labs / Radiology
   220 K/uL
   9.5 g/dL
   132 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   28 mg/dL
   115 mEq/L
   147 mEq/L
   29.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2198-5-22**]  08:43 PM
                             [**2198-5-22**]  09:45 PM
                             [**2198-5-23**]  01:00 AM
                             [**2198-5-23**]  02:53 AM
                             [**2198-5-23**]  10:09 AM
                             [**2198-5-23**]  11:00 AM
                             [**2198-5-23**]  04:38 PM
                             [**2198-5-23**]  05:49 PM
                             [**2198-5-24**]  02:22 AM
                             [**2198-5-24**]  02:44 AM
   WBC
   8.0
   5.7
   Hct
   32.6
   32.3
   33.3
   29.7
   Plt
   224
   220
   Cr
   0.6
   0.6
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   29
   26
   25
   26
   30
   Glucose
   174
   154
   134
   132
   Other labs: PT / PTT / INR:15.3/33.7/1.3, CK / CKMB /
   Troponin-T:29/4/<0.01, ALT / AST:161/116, Alk Phos / T Bili:154/0.3,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:143 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P:  85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy
   w/permanent tracheostomy p/w decreased responsiveness and hypotension,
   likely iatrogenic
   # Respiratory Failure:  Likely iatrogenic causes, now wearing off. Pt.
   with no events overnight, now much more responsive.  Sputum sample
   shows 4+ GNR, continuing with zosyn.  Advanced to pressure support.
   Will continue to wean as tolerated.  Also treating with prednisone
   60mg, will continue.
   - Cont. Zosyn
   - F/U sputum culture
   - Serial ABG's
   - Wean ventilation
   - Daily CXR
   - Cont. MDI
   # Cardiac:  Echo demonstrates LVH, RA enlargement, mod. Pulm.
   Hypertension/RV enlargement.  Nl EF.  Trops neg. x 3.  Mildly edematous
   on extremities.  Continue diuresis, now that patient has seemingly been
   adequately fluid resuscitated.
   - Diurese aggressively, goal of [**2-27**] liters net negative
   # Altered Mental Status:  Patient is much more responsive relative to
   yesterday, able to follow commands.  Continue to wean pressure support
   as needed and hold sedation.
   - Wean ventilation as needed.
   # Transaminitis:  In addition, transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension.  Will
   continue to trend.
   - Trend LFT's
   # Falling Hct:  Hct from 39.7 to 32.7, likely dilutional after
   receiving fluid boluses.  Will continue to monitor with serial crits.
   - Repeat Hct in PM
   # Hypernatremia:  Na creeping up, will be exacerbated with lasix, as
   diuresis continues, will give patient free water boluses
   - Administer D5w through OG tube as diuresis continues
   # Hypothyroidism:  Will cont. synthroid
   # Hyperlipidemia:  Will cont. atorvastatin
   ICU Care
   Nutrition:
   IVF boluses, repete lytes PRN
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   18 Gauge - [**2198-5-22**] 08:45 PM
   20 Gauge - [**2198-5-22**] 08:45 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   # PPx:  +HSC, +IV Protonix, -bowel needed
   # Access: RIJ, 2 PIV
   # Code:  Full, confirmed with daughter who is HCP
   # Dispo: ICU

2198-05-25 07:18:00 Physician Resident Progress Note
24 Hour Events:
   negative 1.8L at 9pm
   Hypertensive overnight. Got 5mg Lisinopril x1
   ABG not great this AM. considering increasing FiO2 back up to 40%
   Gave labetolol 200mg with decreased blood pressures
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-5-23**] 09:00 AM
   Piperacillin - [**2198-5-23**] 05:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-24**] 04:44 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-5-24**] 04:44 PM
   Furosemide (Lasix) - [**2198-5-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 72 (55 - 81) bpm
   BP: 95/36(51) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,190 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    690 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,875 mL
                                                                    740 mL
   Urine:
                                                                  2,875 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,685 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (260 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.32/71/77/31/6
   Ve: 11.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   10.9 g/dL
   113 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   29 mg/dL
   111 mEq/L
   149 mEq/L
   34.2 %
   7.2 K/uL
        [image002.jpg]
                                     pH
                                    7.32
                                    pCO2
                                     71
                                     pO2
                                     77
                                    HCO3
                                     38
                                   BaseXS
                                      6
                             [**2198-5-23**]  04:38 PM
                             [**2198-5-23**]  05:49 PM
                             [**2198-5-24**]  02:22 AM
                             [**2198-5-24**]  02:44 AM
                             [**2198-5-24**]  09:18 AM
                             [**2198-5-24**]  02:09 PM
                             [**2198-5-24**]  03:43 PM
                             [**2198-5-25**]  02:42 AM
                             [**2198-5-25**]  03:49 AM
                             [**2198-5-25**]  05:40 AM
   WBC
   5.7
   7.2
   Hct
   33.3
   29.7
   32.3
   34.2
   Plt
   220
   279
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   26
   30
   30
   32
   33
   38
   Glucose
   134
   132
   154
   113
   Other labs: PT / PTT / INR:15.3/33.7/1.3, CK / CKMB /
   Troponin-T:29/4/<0.01, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   [**2198-5-23**] Respiratory Culture:  STAPH AUREUS COAG +.    SPARSE GROWTH
   Assessment and Plan
   A/P:  85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy
   w/permanent tracheostomy p/w decreased responsiveness and hypotension,
   likely iatrogenic
   # Respiratory Failure:  Likely iatrogenic causes, now wearing off. Pt.
   with blood gas showing some more acidosis, FiO2 increased. Continues to
   be more responsive.  Sputum sample sparse growth of coag + staph,
   consider beginning vanc.  Advanced to pressure support.  Will continue
   to wean as tolerated.  Also treating with prednisone 60mg, will
   continue.
   - Cont. Zosyn
   - F/U sputum culture final read
   - Serial ABG's
   - Wean ventilation
   - Daily CXR
   - Cont. MDI
   # Hypertension:  Pt. to 200
s systolic overnight, started on lisinopril
   5 and then given labetolol 200 with resultant decrease in sbp to 90
   Will increase daily lisinopril.
   - Increase daily lisinopril
   - Continue to monitor BP in light of diuresis
   # Cardiac:  Echo demonstrates LVH, RA enlargement, mod. Pulm.
   Hypertension/RV enlargement.  Nl EF.  Trops neg. x 3.  Mildly edematous
   on extremities.  Continue diuresis, was 2 L negative yesterday.
   - Diurese aggressively, goal of [**2-27**] liters net negative
   - PM lytes
   # Altered Mental Status:  Patient is much more responsive relative to
   yesterday, able to follow commands.  Continue to wean pressure support
   as needed and hold sedation.
   - Wean ventilation as needed.
   # Transaminitis:  In addition, transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension.  Will
   continue to trend.
   - Trend LFT's
   # Falling Hct:  Hct from 39.7 to 32.7 now up to 34, likely dilutional
   after receiving fluid boluses.  Will continue to monitor with serial
   crits.
   - Repeat Hct in PM
   # Hypernatremia:  Na creeping up, will be exacerbated with lasix, as
   diuresis continues, will give patient free water boluses
   - Administer D5w through OG tube as diuresis continues
   # Hypothyroidism:  Will cont. synthroid
   # Hyperlipidemia:  Will cont. atorvastatin
   ICU Care
   Nutrition:
   IVF boluses, repete lytes PRN
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   18 Gauge - [**2198-5-22**] 08:45 PM
   20 Gauge - [**2198-5-22**] 08:45 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   # PPx:  +HSC, +IV Protonix, -bowel needed
   # Access: RIJ, 2 PIV
   # Code:  Full, confirmed with daughter who is HCP
   # Dispo: ICU

2198-05-26 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2198-5-25**] 12:15 PM
   - Extubated, O2 sat in high 90's, responsive
   - negative 1.2L at 11pm
   - Episodes of bradycardia, possibly junctional beats
   - Patient eating
   - Hypertensive in AM, increased atenolol to [**Hospital1 **] dosing
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-5-23**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-24**] 04:44 PM
   Piperacillin - [**2198-5-26**] 12:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-26**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 51 (49 - 76) bpm
   BP: 138/51(71) {138/51(71) - 138/51(71)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 7 (-1 - 14)mmHg
   Total In:
                                                                  1,470 mL
                                                                    163 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    240 mL
   Urine:
                                                                  2,785 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 265 (265 - 265) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.27/77.[**Numeric Identifier 253**]/124/33/6
   Ve: 10.7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   292 K/uL
   10.5 g/dL
   141
   0.7 mg/dL
   33 mEq/L
   3.7 mEq/L
   29 mg/dL
   104 mEq/L
   145 mEq/L
   33.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2198-5-25**]  03:49 AM
                             [**2198-5-25**]  05:40 AM
                             [**2198-5-25**]  09:00 AM
                             [**2198-5-25**]  12:00 PM
                             [**2198-5-25**]  03:00 PM
                             [**2198-5-25**]  03:58 PM
                             [**2198-5-25**]  04:00 PM
                             [**2198-5-25**]  10:00 PM
                             [**2198-5-26**]  12:48 AM
                             [**2198-5-26**]  06:01 AM
   WBC
   5.8
   Hct
   33.2
   Plt
   292
   Cr
   0.7
   TCO2
   33
   38
   37
   Glucose
   139
   141
   130
   151
   133
   141
   Other labs: PT / PTT / INR:15.3/33.7/1.3, CK / CKMB /
   Troponin-T:29/4/<0.01, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
     85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy
   w/permanent tracheostomy p/w decreased responsiveness and hypotension,
   likely iatrogenic
   # Respiratory Failure:  Likely iatrogenic causes, now wearing off. Pt.
   with blood gas showing some more acidosis, FiO2 increased. Continues to
   be more responsive.  Sputum sample sparse growth of coag + staph,
   consider beginning vanc.  Advanced to pressure support.  Will continue
   to wean as tolerated.  Also treating with prednisone 60mg, will
   continue.
   - Cont. Zosyn
   - F/U sputum culture final read
   - Serial ABG's
   - Wean ventilation, extubate
   - Daily CXR
   - Cont. MDI
   # Hypertension:  Pt. to 200
s systolic overnight, started on lisinopril
   5 and then given labetolol 200 with resultant decrease in sbp to 90
   Will increase daily lisinopril.
   - Increase daily lisinopril to home dose
   - Continue to monitor BP in light of diuresis
   # Cardiac:  Echo demonstrates LVH, RA enlargement, mod. Pulm.
   Hypertension/RV enlargement.  Nl EF.  Trops neg. x 3.  Mildly edematous
   on extremities.  Continue diuresis, was 2 L negative yesterday.
   - Diurese aggressively, goal of [**2-27**] liters net negative
   - PM lytes
   # Altered Mental Status:  Patient is much more responsive relative to
   yesterday, able to follow commands.  Continue to wean pressure support
   as needed and hold sedation.
   - Wean ventilation as needed.
   # Transaminitis:  In addition, transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension.  Will
   continue to trend.
   - Trend LFT's
   # Falling Hct:  Hct from 39.7 to 32.7 now up to 34, likely dilutional
   after receiving fluid boluses.  Will continue to monitor with serial
   crits.
   - Repeat Hct in PM
   # Hypernatremia:  Na creeping up, will be exacerbated with lasix, as
   diuresis continues, will give patient free water boluses
   - Administer D5w through OG tube as diuresis continues
   # Hypothyroidism:  Will cont. synthroid
   # Hyperlipidemia:  Will cont. atorvastatin
   ICU Care
   Nutrition:
   IVF boluses, repete lytes PRN
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   # PPx:  +HSC, +IV Protonix, -bowel needed
   # Access: RIJ, 2 PIV
   # Code:  Full, confirmed with daughter who is HCP
   # Dispo: ICU

2198-05-26 11:10:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2198-5-25**] 12:15 PM
   This AM with secretions needed deep suctioning
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-24**] 04:44 PM
   Piperacillin - [**2198-5-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-5-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-26**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 62 (49 - 76) bpm
   BP: 138/51(71) {138/51(71) - 138/51(71)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 7 (-1 - 14)mmHg
   Total In:
                                                                  1,470 mL
                                                                    340 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    420 mL
   Urine:
                                                                  2,785 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.27/77.[**Numeric Identifier 253**]/124/35/6
   PaO2 / FiO2: 310
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   292 K/uL
   122 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   29 mg/dL
   105 mEq/L
   147 mEq/L
   33.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2198-5-25**]  03:49 AM
                             [**2198-5-25**]  05:40 AM
                             [**2198-5-25**]  09:00 AM
                             [**2198-5-25**]  12:00 PM
                             [**2198-5-25**]  03:00 PM
                             [**2198-5-25**]  03:58 PM
                             [**2198-5-25**]  04:00 PM
                             [**2198-5-25**]  10:00 PM
                             [**2198-5-26**]  12:48 AM
                             [**2198-5-26**]  06:01 AM
   WBC
   5.8
   Hct
   33.2
   Plt
   292
   Cr
   0.7
   0.5
   TCO2
   33
   38
   37
   Glucose
   139
   141
   130
   151
   133
   141
   122
   Other labs: PT / PTT / INR:15.8/128.6/1.4, CK / CKMB /
   Troponin-T:29/4/<0.01, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Present for the key portions of the resident
s history and exam.  Agree
   substantially with assessment and plan as outlined.  This am he is
   uncomfortable after suctioing.
   1. Resp Distress: still extubated but increased secretions today.
   2. Hemodynamics: normotensive - 1.3 l negative yesterday. Try 500 to
   1000 cc today - watching BP trends
   Time spent 35 min
   Critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2198-05-27 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2198-5-27**] 05:00 AM
 EKG - At [**2198-5-27**] 06:15 AM
   - started on atenolol 25 mg PO bid
   - restarted on synthroid, statin, finasteride
   - started vancomycin for worsening CXR, rare GPCs on sputum cx
   - lasix 20 mg IV x 1
   - increased ectopy o/n
   - developed a fib this morning with rates in 120s
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-24**] 04:44 PM
   Piperacillin - [**2198-5-27**] 12:00 AM
   Vancomycin - [**2198-5-27**] 06:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-5-27**] 12:00 AM
   Hydralazine - [**2198-5-27**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-27**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 136 (53 - 136) bpm
   BP: 138/51(71) {0/0(0) - 0/0(0)} mmHg
   RR: 35 (19 - 37) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,130 mL
                                                                    796 mL
   PO:
                                                                    390 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    300 mL
   Urine:
                                                                  2,085 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -955 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   Physical Examination
   Gen: Responsive to commands
   HEENT:  PERRLA, EOMI, clear OP, MMM
   Neck:  supple
   CV:  RRR, -m/r/g, nl S1/S2
   Lungs:  slightly wheezing, was tachypneic s/p aggressive suctioning
   Abd:  S/NT/ND/nabs, -HSM
   Ext: -c/c/e, warm/well perfused
   Labs / Radiology
   309 K/uL
   11.2 g/dL
   121 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.4 mEq/L
   25 mg/dL
   104 mEq/L
   147 mEq/L
   34.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2198-5-25**]  09:00 AM
                             [**2198-5-25**]  12:00 PM
                             [**2198-5-25**]  03:00 PM
                             [**2198-5-25**]  03:58 PM
                             [**2198-5-25**]  04:00 PM
                             [**2198-5-25**]  10:00 PM
                             [**2198-5-26**]  12:48 AM
                             [**2198-5-26**]  06:01 AM
                             [**2198-5-26**]  04:50 PM
                             [**2198-5-27**]  02:48 AM
   WBC
   5.8
   7.4
   Hct
   33.2
   34.9
   Plt
   292
   309
   Cr
   0.7
   0.5
   0.7
   0.5
   TCO2
   37
   Glucose
   139
   141
   130
   151
   133
   141
   122
   121
   Other labs: PT / PTT / INR:15.5/56.3/1.4, CK / CKMB /
   Troponin-T:29/4/<0.01, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy
   w/permanent tracheostomy p/w decreased responsiveness and hypotension.
   # A fib. Pt with increased ectopy overnight, developed a-fib with RVR
   with diffuse ST changes most notably ST depressions v3-v6. No CP or
   SOB, bp maintained. Likely demand ischemia but will ROMI. Given
   metoprolol 10 mg IV and 25 mg PO and converted to sinus however now
   having episodes of asymptomatic sustained ventricular rhythms on the
   monitor which convert spontaneously.
   - ASA
   - metoprolol for rate control
   - trend CE
   - aggressively replete lytes
   - cardiology consult
   - repeat EKG
   # Respiratory Failure:  Likely iatrogenic causes although treating for
   COPD exacerbation/infection, now extubated, stable. Sputum sample
   sparse growth of coag + staph. CXR yesterday shows worsening R lung
   infiltrates.
   - Vancomycin started yesterday for worsening chest x-ray and sputum cx
   results.
   - Continue Prednisone
   - Cont. Zosyn
   - f/u repeat sputum cx
   - Daily CXR
   - Cont. MDI
   # Hypertension:  Hypertensive to 200s o/n on lisinopril 10 q day and
   atenolol 25 mg [**Hospital1 **]. Received 10  mg IV hydralazine x 2. Pressures
   improved in setting of increased heart rate this am.  Currently in
   140s.
   - Atenolol switched to metoprolol 25 mg tid
   - Continue to monitor BPs
   # Lower extremity edema:  Echo demonstrates LVH, RA enlargement,
   moderate pulmonary HTN/RV enlargement with normal EF.  Trops neg. x 3.
   Mildly edematous on extremities.  Undergoing continued diuresis, was ~1
   L negative yesterday.
   - Diuresis with goal of 500 cc net negative today if stable from a
   cardiac standpoint.
   # Altered Mental Status:  Patient is much more awake.  Now extubated,
   alert and interactive. Family with concerns yesterday of confusion.
   Appears clearer this am, although has not slept well over past three
   nights.
   - Trazadone prn insomnia
   - Consider head CT if concern for continued MS changes
   # Transaminitis:  In addition, transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension. Trended
   down.
   # Falling Hct:  Hct from 39.7 to 32.7 now stable 33-34, likely
   dilutional after receiving fluid boluses.
   - daily Hcts
   # Hypernatremia:  Na 147, may  be exacerbated with lasix
   -continue to monitor
   # Hypothyroidism:  restarted synthroid
   # Hyperlipidemia:  restarted atorvastatin
   # FEN: IVF boluses, repete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: full code
   Disposition: ICU

2198-05-27 09:25:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HTn last night- he was agitated, given atenalol and dose of Hydral
   More ectopy then this AM - this flipped into Afib - then having runs of
   wide complex in 70
 looks like VT
   no chest pain, given ASA, statin , cycling enzymes.
   12 lead with transient inf ischemic changes similar to presentation
   Now back in NSR
   Cardiology had been following but signed off- calling back
   CXR looked worse more secretions - added Vanco  yesterday
   24 Hour Events:
 EKG - At [**2198-5-27**] 05:00 AM
 EKG - At [**2198-5-27**] 06:15 AM
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-24**] 04:44 PM
   Vancomycin - [**2198-5-27**] 06:02 AM
   Piperacillin - [**2198-5-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2198-5-27**] 02:30 AM
   Metoprolol - [**2198-5-27**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2198-5-27**] 08:06 AM
   Other medications:
   ASA, lipitor, Lopressor,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-27**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.3
   HR: 74 (53 - 136) bpm
   BP: 138/51(71) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (16 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,130 mL
                                                                  1,146 mL
   PO:
                                                                    390 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    846 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    420 mL
   Urine:
                                                                  2,085 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -955 mL
                                                                    726 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///39/
   Physical Examination
   Gen: sitting up in bed, using voicebox
   CV: intermittently tachy irreg
   Chest: scattered exp rales
   Abd: soft NT
   Ext: no edema
   Labs / Radiology
   11.2 g/dL
   309 K/uL
   121 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.4 mEq/L
   25 mg/dL
   104 mEq/L
   147 mEq/L
   34.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2198-5-25**]  09:00 AM
                             [**2198-5-25**]  12:00 PM
                             [**2198-5-25**]  03:00 PM
                             [**2198-5-25**]  03:58 PM
                             [**2198-5-25**]  04:00 PM
                             [**2198-5-25**]  10:00 PM
                             [**2198-5-26**]  12:48 AM
                             [**2198-5-26**]  06:01 AM
                             [**2198-5-26**]  04:50 PM
                             [**2198-5-27**]  02:48 AM
   WBC
   5.8
   7.4
   Hct
   33.2
   34.9
   Plt
   292
   309
   Cr
   0.7
   0.5
   0.7
   0.5
   TCO2
   37
   Glucose
   139
   141
   130
   151
   133
   141
   122
   121
   Other labs: PT / PTT / INR:15.5/56.3/1.4, CK / CKMB /
   Troponin-T:29/4/<0.01, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   1. Wide Complex Tachy: and intermittent Afib- DDx ischemia esp in
   setting of known lung disease and HTN
 V tach from old inverior scar
   possible
 will continue bblocker and uptitrate, replete K and Mg
   aggressively. Maintain statin, cycle CKs
   Consult cardiology and discuss role of Amio loading.
   2. Resp Distress: remains but increased secretions today. Repeat CXR,
   follow up sputum. Continue nebs and steroids
   3.. Hemodynamics: normotensive - 1.3 l negative yesterday. Try 500 to
   1000 cc today - watching BP trends
   Remaining issues as per Housestaff
   Time spent 45 min
   Critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   Prophylaxis:
   DVT: sc
   Stress ulcer: PPI
   Communication:  with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2198-05-28 06:06:00 Physician Resident Progress Note
Chief Complaint: Altered mental status and hypotension
   24 Hour Events:
   -cards consulted for new afib and intermittent wide-complex rhythm:
   started heparin gtt for afib. Recommended metoprolol, and EP consult in
   the AM.
   -titrated up metoprolol to 50mg po tid
   -continued to go in and out of wide complex rhythm, BPs dropped to
   70s/40s during these episodes
   -trop 0.11 -called cards fellow -thought to be secondary to demand
   ischemia from prior MI when he goes into afib
   - Got 20mg IV lasix x2
   -CXR: possible infiltrate at left base
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2198-5-27**] 04:32 PM
   Vancomycin - [**2198-5-28**] 05:56 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Metoprolol - [**2198-5-27**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2198-5-27**] 08:06 AM
   Furosemide (Lasix) - [**2198-5-28**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-28**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 54 (48 - 136) bpm
   BP: 138/51(71) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  2,457 mL
                                                                    236 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  1,957 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  2,402 mL
                                                                  1,925 mL
   Urine:
                                                                  2,402 mL
                                                                  1,925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                 -1,689 mL
   Respiratory support
   O2 Delivery Device: Trach mask @ 40%
   SpO2: 100%
   ABG: ///41/
   Physical Examination
   Gen: Pleasant, Responsive
   HEENT:  PERRLA, clear OP, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  rhonchi bilaterally on anterior exam
   Abd:  Soft, NT, Non distended. No masses. No rebound or guarding.
   Ext:Warm/well perfused. No edema
   Labs / Radiology
   335 K/uL
   11.2 g/dL
   108 mg/dL
   0.6 mg/dL
   41 mEq/L
   4.3 mEq/L
   17 mg/dL
   96 mEq/L
   141 mEq/L
   33.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2198-5-25**]  04:00 PM
                             [**2198-5-25**]  10:00 PM
                             [**2198-5-26**]  12:48 AM
                             [**2198-5-26**]  06:01 AM
                             [**2198-5-26**]  04:50 PM
                             [**2198-5-27**]  02:48 AM
                             [**2198-5-27**]  06:48 AM
                             [**2198-5-27**]  01:48 PM
                             [**2198-5-27**]  08:17 PM
                             [**2198-5-28**]  02:02 AM
   WBC
   5.8
   7.4
   8.0
   Hct
   33.2
   34.9
   33.8
   Plt
   292
   309
   335
   Cr
   0.5
   0.7
   0.5
   0.5
   0.6
   0.6
   TropT
   <0.01
   0.08
   0.11
   TCO2
   37
   Glucose
   133
   141
   122
   121
   213
   187
   108
   Other labs: PT / PTT / INR:16.9/150.0/1.5, CK / CKMB /
   Troponin-T:77/3/0.11, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w decreased responsiveness and hypotension.
   # A fib. Pt with increased ectopy overnight, developed a-fib with RVR
   with diffuse ST changes most notably ST depressions v3-v6. No CP or
   SOB, bp maintained. Cardiology was consulted who recommended starting
   heparin gtt, uptitrating beta blocker, and consulting EP in the AM.
   Trop 0.11. Cardiology called who thought that this is likely demand
   ischemia from previous MI, in the setting of new afib. Patient is chest
   pain free. Patient continued to go into wide-complex rhythm overnight.
   Systolic BPs dropped to 70s at times when this happened.
   - d/c ASA, as patient has ruled out for MI
   - continue metoprolol 50mg pot id. Uptitrate as blood pressure and HR
   tolerates
   - aggressively replete lytes
   - EP consult this AM
   -continue to trend trops
   # Respiratory Failure:  Likely iatrogenic causes although treating for
   COPD exacerbation/infection, now extubated, stable. Sputum sample
   sparse growth of coag + staph. CXR yesterday shows worsening L lung
   infiltrates. Sputum culture now growing MSSA.
   - D/c Vanc. Start Nafcillin. Continue Zosyn (day 1= [**5-23**]) for total 7
   day courseaspiration pneumonia
   - reduce prednisone to 40mg po daily for COPD exacerbation. Consider
   tapering to 20mg po daily on [**6-2**]
   - f/u repeat sputum cx
   - Daily CXR
   - Cont. MDI
   # Hypertension:  Systolic BPs 70s-180s overnight. Currently on
   Metoprolol 50mg po tid, and Lisinopril 10mg po daily. Also diuresing
   patient with lasix 20mg IV. Would not treat further episodes of
   hypertension until dysrhythmia resolves.
   # Lower extremity edema:  Echo demonstrates LVH, RA enlargement,
   moderate pulmonary HTN/RV enlargement with normal EF.  Trops neg. x 3.
   Mildly edematous on extremities.  Patient got 20mg IV lasix x2
   overnight. And is net I/O
s even.
   - Cautious diuresis with goal of net even today as BP and HR tolerate.
   # Altered Mental Status:  resolving. Per family, patient has
   intermittent episodes of confusion which are different from baseline.
   Neuro exam non focal. Electrolytes within normal limits. Patient does
   have transaminitis, thought to be secondary to prolonged hypotension,
   that is slowly resolving.  TSH within normal limits. Tox screen
   negative.  [**Month (only) 8**] be secondary to intermittent hypotension in the setting
   of dysrhthmia.
   - zyprexa PRN insomnia, agitation
   - Consider head CT if concern for continued MS changes
   # Transaminitis:  resolving. Transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension.
continue
   to follow LFTs
   # Normocytic Anemia:  Hct 33.8 this AM, which appears to be his
   baseline. 39.7 on admission, likely from hemoconcentration. Patient not
   actively bleeding. If continues to drop would obtain iron studies, B12,
   folate levels.
   - daily Hcts for now
   # Hypernatremia:  resolved. Na 147 yesterday. This AM, down to 140.
   Patient got 500cc D5W yesterday.
   -continue to monitor as we continue to diurese him, and this will
   likely recur with lasix
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVFs, Regular diet, repete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2198-05-29 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2198-5-28**] 09:30 AM
   -cards says rhythm is idioventricular perfusion rhythm from some prior
   ischemic event, should be ok in time, give atropine if persistently
   hypotensive, especially if with anomalous rhythm
   -trop at 0.03, down from 0.11 on [**5-27**] PM
   -on nafcillin, vanco discontinued
   -prednisone decreased to 40
   -episode of persistent hypotension in low 80's, high 70's, asyx, while
   in sinus, given 500 cc bolus with inc. in sbp to 120's, MAP's in mid
   60's.
   -Negative 1.3L at 9pm
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-5-28**] 05:56 AM
   Piperacillin - [**2198-5-28**] 04:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-28**] 11:54 PM
   Nafcillin - [**2198-5-29**] 06:00 AM
   Infusions:
   Heparin Sodium - 250 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-29**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 87 (50 - 87) bpm
   BP: 138/51(71) {0/0(0) - 0/0(0)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 3 (3 - 9)mmHg
   Total In:
                                                                  1,716 mL
                                                                    349 mL
   PO:
                                                                    350 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,366 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                    340 mL
   Urine:
                                                                  2,905 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,189 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   Gen: Pleasant, Responsive
   HEENT:  PERRLA, clear OP, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  rhonchi bilaterally on anterior exam
   Abd:  Soft, NT, Non distended. No masses. No rebound or guarding.
   Ext:Warm/well perfused. No edema
   Labs / Radiology
   305 K/uL
   10.2 g/dL
   119 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.7 mEq/L
   18 mg/dL
   98 mEq/L
   141 mEq/L
   31.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2198-5-26**]  12:48 AM
                             [**2198-5-26**]  06:01 AM
                             [**2198-5-26**]  04:50 PM
                             [**2198-5-27**]  02:48 AM
                             [**2198-5-27**]  06:48 AM
                             [**2198-5-27**]  01:48 PM
                             [**2198-5-27**]  08:17 PM
                             [**2198-5-28**]  02:02 AM
                             [**2198-5-28**]  02:25 PM
                             [**2198-5-29**]  03:00 AM
   WBC
   5.8
   7.4
   8.0
   9.4
   Hct
   33.2
   34.9
   33.8
   31.3
   Plt
   292
   309
   335
   305
   Cr
   0.5
   0.7
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   0.08
   0.11
   0.03
   TCO2
   37
   Glucose
   122
   121
   213
   187
   108
   238
   119
   Other labs: PT / PTT / INR:14.0/69.4/1.2, CK / CKMB /
   Troponin-T:65/3/0.03, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w decreased responsiveness and hypotension.
   # A fib. Pt with increased ectopy overnight, developed a-fib with RVR
   with diffuse ST changes most notably ST depressions v3-v6. No CP or
   SOB, bp maintained. Cardiology was consulted who recommended starting
   heparin gtt, uptitrating beta blocker, and consulting EP in the AM.
   Trop  peaked at 0.11. Cardiology called who thought that this is likely
   demand ischemia from previous MI, in the setting of new afib. Patient
   is chest pain free. Has episodes of wide-complex rhythm associated wth
   hypotension. Systolic BPs dropped to 70s at times when this happened.
   Per EP idioventricular perfusion rhythm from some prior ischemic event,
   may resolve in time, give atropine if persistently hypotensive,
   especially if with anomalous rhythm
   - continue metoprolol 50mg po tid. Uptitrate as blood pressure and HR
   tolerates
   - heparin gtt
   - aggressively replete lytes
   - f/u EP recs
   # Respiratory Failure:  Likely iatrogenic causes although treating for
   COPD exacerbation/infection, now extubated, stable. Sputum sample
   sparse growth of coag + staph. Sputum culture now growing MSSA. Repeat
   sputum culture shows no growth.
   - D/c Vanc. Start Nafcillin ([**5-28**]= day 1). Continue Zosyn ([**5-29**] = day
   [**7-31**]) for total 7 day course for aspiration pneumonia
   - reduce prednisone to 40mg po daily for COPD exacerbation. Consider
   tapering to 20mg po daily on [**6-2**]
   - Daily CXR
   - Cont. MDI
   # Hypertension/hypotension: Has had episodes of both hypertension and
   hypotension. Hypotension is transient and associated with patients
   idioventricular rhythm. One episode of hypotension overnight while in
   NSR, given 500 cc bolus with good response.
   - Continue Metoprolol 50mg po tid and Lisinopril 10mg po daily.
   - Cautious diuresis with lasix 20mg IV prn if appears fluid overloaded
   - IVF bolus prn
   - Atropine if persistently hypotensive and in anomalous rhythm
   # Lower extremity edema:  Echo demonstrates LVH, RA enlargement,
   moderate pulmonary HTN/RV enlargement with normal EF.  Trops neg. x 3.
   Mildly edematous on extremities.  Patient was 1.2 L net negative
   overnight.
   - Cautious diuresis with goal of net even today as BP and HR tolerate.
   # Altered Mental Status:  resolving. Per family, patient has
   intermittent episodes of confusion which are different from baseline.
   Neuro exam non focal. Electrolytes within normal limits. Patient does
   have transaminitis, thought to be secondary to prolonged hypotension,
   that is slowly resolving.  TSH within normal limits. Tox screen
   negative.  [**Month (only) 8**] be secondary to intermittent hypotension in the setting
   of dysrhthmia.
   - zyprexa PRN insomnia, agitation
   - Consider head CT if concern for continued MS changes
   # Transaminitis:  resolving. Transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension.
 LFTs
   trended down.
   # Normocytic Anemia:  Hct 31.3 from 33.8 this AM, which appears to be
   his baseline. 39.7 on admission, likely from hemoconcentration. No
   signs of active bleeding. If continues to trend down will consider iron
   studies, B12, folate.
   - daily Hcts for now
   # Hypernatremia:  resolved. Peaked at 147, resolved c/ 500 cc D5W. This
   am 141
   - continue to monitor
   - D5W as needed
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVFs, Regular diet, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2198-05-30 07:26:00 Physician Resident Progress Note
24 Hour Events:
   -rehab screen
   -metoprolol decreased to 25 mg tid
   -PT/OT c/s
   -d/c'd heparin, a line
   -d/c'd zosyn as completed a 7 day course
   -crit trending down, 27.9 this am
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-5-28**] 05:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-28**] 11:54 PM
   Piperacillin - [**2198-5-29**] 04:00 PM
   Nafcillin - [**2198-5-29**] 11:43 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-30**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 70 (60 - 97) bpm
   BP: 129/60(69) {93/37(52) - 129/60(69)} mmHg
   RR: 22 (3 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,576 mL
                                                                     74 mL
   PO:
                                                                    710 mL
             TF:
   IVF:
                                                                    866 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    350 mL
   Urine:
                                                                  1,085 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    491 mL
                                                                   -276 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///40/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   287 K/uL
   9.3 g/dL
   115 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.6 mEq/L
   22 mg/dL
   100 mEq/L
   142 mEq/L
   27.9 %
   8.7 K/uL
         [image002.jpg]
                             [**2198-5-26**]  04:50 PM
                             [**2198-5-27**]  02:48 AM
                             [**2198-5-27**]  06:48 AM
                             [**2198-5-27**]  01:48 PM
                             [**2198-5-27**]  08:17 PM
                             [**2198-5-28**]  02:02 AM
                             [**2198-5-28**]  02:25 PM
                             [**2198-5-29**]  03:00 AM
                             [**2198-5-29**]  04:13 PM
                             [**2198-5-30**]  03:38 AM
   WBC
   7.4
   8.0
   9.4
   8.9
   8.7
   Hct
   34.9
   33.8
   31.3
   31.9
   27.9
   Plt
   [**Telephone/Fax (3) 6188**]49
   287
   Cr
   0.7
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   0.8
   0.7
   TropT
   <0.01
   0.08
   0.11
   0.03
   Glucose
   121
   213
   187
   108
   238
   119
   215
   115
   Other labs: PT / PTT / INR:13.5/28.0/1.2, CK / CKMB /
   Troponin-T:65/3/0.03, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w decreased responsiveness and hypotension,
   now with dysrhythmias and transient hypotension.
   # Dysrhythmias. Cards recommends stopping heparin, did not see any new
   episodes of afib after tele review, risk of starting plavix too high.
   Would continue beta blocker and to be seen in Dr. [**Last Name (STitle) **]
s clinic.
   Trops trending down.
   - metoprolol to 25 mg po tid
   - heparin gtt d/c
   - aggressively replete lytes
   # Respiratory Failure:  Likely iatrogenic causes although treating for
   COPD exacerbation/infection, now extubated, stable. Sputum sample
   sparse growth of coag + staph. Sputum culture now growing MSSA. Repeat
   sputum culture shows no growth.
   - D/c Vanc. Start Nafcillin ([**5-29**]= day 2). Zosyn 7 day course completed.
   - Prednisone at 40mg po daily for COPD exacerbation. Consider tapering
   to 20mg po daily on [**6-2**]
   - Cont. MDI
   .
   # Anemia:  Patient currently slowly trending down.  Unclear etiology,
   now at 27 from 31.
   .
   # Hypertension/hypotension: Has had episodes of both hypertension and
   hypotension. Hypotension is transient and associated with patients
   idioventricular rhythm. No episodes yesterday
   - Metoprolol to 25 mg tid and Lisinopril 10mg po daily.
   - IVF bolus prn
   - Atropine if persistently hypotensive and in anomalous rhythm
   .
   # Fluid overload:  Echo demonstrates LVH, RA enlargement, moderate
   pulmonary HTN/RV enlargement with normal EF. Extremity edema has
   resolved.  Patient was even overnight
   - No additional lasix at this time.
   .
   # Altered Mental Status:  Per family, patient has intermittent episodes
   of confusion which are different from baseline. Electrolytes within
   normal limits. Patient does have transaminitis, thought to be secondary
   to prolonged hypotension, that is slowly resolving.  TSH within normal
   limits. Tox screen negative.  [**Month (only) 8**] be secondary to intermittent
   hypotension in the setting of dysrhthmia.  Appears at baseline today.
   - zyprexa PRN insomnia, agitation
   # Transaminitis:  resolving. Transient elevation of LFT's 3 fold in 4
   hours possibly due to transient ischemia due to hypotension.
 LFTs
   trended down.
   # Normocytic Anemia:  Hct 31.3 from 33.8 this AM, which appears to be
   his baseline. 39.7 on admission, likely from hemoconcentration. No
   signs of active bleeding. If continues to trend down will consider iron
   studies, B12, folate.
   - daily Hcts
   # Hypernatremia:  resolved. Peaked at 147, resolved c/ 500 cc D5W. This
   am 141.
   - continue to monitor
   - D5W as needed
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVFs, Regular diet, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   Arterial Line - [**2198-5-23**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments: daughter, wife
   [**Name (NI) 156**] status: FULL
   Disposition: ICU

2198-05-31 07:31:00 Physician Resident Progress Note
-PT evaluated and recommended rehab with PT and OT, screened for rehab,
   had a bed yesterday
   -patient and family resistant to leaving, under impression they should
   stay here until Dr. [**Last Name (STitle) 6209**] is in house (according to her note, Friday).
   Pulmonologist Dr. [**Last Name (STitle) 712**] was not in the hospital, will be today.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-5-28**] 11:54 PM
   Piperacillin - [**2198-5-29**] 04:00 PM
   Nafcillin - [**2198-5-29**] 11:43 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-5-31**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 74 (63 - 101) bpm
   BP: 109/45(60) {86/32(43) - 133/73(82)} mmHg
   RR: 22 (0 - 39) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,161 mL
                                                                    240 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    201 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    315 mL
   Urine:
                                                                    880 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: ///40/
   Physical Examination
   Gen: Pleasant, Responsive
   HEENT:  PERRLA, clear OP, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  few scatter rhonchi
   Abd:  Soft, NT, Non distended. No masses. No rebound or guarding.
   Ext:Warm/well perfused. No edema
   Labs / Radiology
   283 K/uL
   8.7 g/dL
   120 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.3 mEq/L
   21 mg/dL
   101 mEq/L
   143 mEq/L
   27.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2198-5-27**]  06:48 AM
                             [**2198-5-27**]  01:48 PM
                             [**2198-5-27**]  08:17 PM
                             [**2198-5-28**]  02:02 AM
                             [**2198-5-28**]  02:25 PM
                             [**2198-5-29**]  03:00 AM
                             [**2198-5-29**]  04:13 PM
                             [**2198-5-30**]  03:38 AM
                             [**2198-5-30**]  04:54 PM
                             [**2198-5-31**]  03:32 AM
   WBC
   8.0
   9.4
   8.9
   8.7
   9.2
   Hct
   33.8
   31.3
   31.9
   27.9
   29.2
   27.5
   Plt
   335
   305
   349
   287
   283
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.8
   0.7
   0.7
   TropT
   <0.01
   0.08
   0.11
   0.03
   Glucose
   [**Telephone/Fax (3) 6210**]38
   119
   215
   115
   120
   Other labs: PT / PTT / INR:13.0/27.2/1.1, CK / CKMB /
   Troponin-T:65/3/0.03, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   C. Diff. Toxin ([**2198-5-30**]):  Negative for toxin
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w decreased responsiveness and hypotension,
   now with resolving dysrhythmias and transient hypotension.
   # Diarrhea:  Patient complaining of loose BM
s x 2 days, brown as per
   nursing.  C. diff toxin negative.
   # Dysrhythmias. Cards recommends stopping heparin, did not see any new
   episodes of afib after tele review, risk of starting plavix too high.
   Would continue beta blocker and to be seen in Dr. [**Last Name (STitle) **]
s clinic.  EP
   signed off.
   - metoprolol 25 mg po tid
   - aggressively replete lytes
   # Respiratory Failure:  Likely iatrogenic, treating for COPD
   exacerbation and tapering dose.  Also treating with Nafcillin for MSSA
   in sputum.
   - On Dicloxacillin (day 4). Zosyn 7 day course completed.
   - Prednisone to 20mg (Day 2)
   - Cont. MDI
   .
   # Anemia:  Hct stable yesterday.  Unclear etiology, possible occult
   blood loss, now stable at 27 from 31.  Will send stool for guiaic.
   - PM Hct
   .
   # Altered Mental Status:  Patient appears at baseline today, will
   continue to monitor
   .
   # Transaminitis:  resolving.
 LFTs trended down.
    .
   # Hypernatremia:  resolved
   - continue to monitor
   - D5W as needed
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVFs, Regular diet, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-5-22**] 08:42 PM
   -Need to pull central line prior to rehab, place PIV
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments: daughter, wife, contact with Dr. [**Last Name (STitle) 712**]
   [**Name (STitle) 156**] status: FULL
   Disposition: Rehab screening or Floor

2198-06-01 06:44:00 Physician Resident Progress Note
24 Hour Events:
   - Episode of unresponsiveness upon removal of RIJ, desaturation to mid
   to high 70s, intubated, fluid boluses EKG demonstrated acute ST
   elevations, cards consulted and started on heparin gtt, ASA, high dose
   statin, and prepped with n-acetylcysteine for possible cath today
   - Placed on levophed, vasopressin, and dopamine for hypotension, poss.
   cardiogenic shock and pulmonary edema from fluid boluses, sedated.
   -Cardiology did not think, based on subsequent EKG
s, that emergent
   cath was required, nor did they suggest getting a bedside echo
   -SVV at 38% > 15%, CVP in [**11-5**] with PEEP @ 14, given 8L of fluid, Cr
   at 0.8
   - Trops increased from 0.05 to 0.26 to 0.27
   - CT head negative
   - Pt. still full code as per discussion with daughter
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2198-5-29**] 04:00 PM
   Nafcillin - [**2198-5-29**] 11:43 PM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Heparin Sodium - 800 units/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2198-6-1**] 02:42 AM
   Fentanyl - [**2198-6-1**] 02:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-1**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (62 - 107) bpm
   BP: 103/47(58) {94/30(45) - 135/102(108)} mmHg
   RR: 19 (16 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 291 (15 - 322)mmHg
   Total In:
                                                                  4,346 mL
                                                                  1,306 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  4,106 mL
                                                                  1,306 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                     75 mL
   Urine:
                                                                    785 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,561 mL
                                                                  1,231 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/61/62/30/6
   Ve: 7.8 L/min
   PaO2 / FiO2: 62
   Physical Examination
   Gen: Intubated, mildly responsive to pain
   HEENT:  PERRLA, ETtube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally, labored breaths
   Abd:  Soft, NT, distended
   Ext: 2+ pitting edema, cool, mottled in all 4 extremities
   Labs / Radiology
   352 K/uL
   9.2 g/dL
   163 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.4 mEq/L
   23 mg/dL
   105 mEq/L
   139 mEq/L
   29.3 %
   16.7 K/uL
        [image002.jpg]
                                     pH
                                    7.24
                                    pCO2
                                     66
                                     pO2
                                     232
                                    HCO3
                                     30
                                   BaseXS
                                      0
                             [**2198-5-29**]  04:13 PM
                             [**2198-5-30**]  03:38 AM
                             [**2198-5-30**]  04:54 PM
                             [**2198-5-31**]  03:32 AM
                             [**2198-5-31**]  04:34 PM
                             [**2198-5-31**]  04:42 PM
                             [**2198-5-31**]  11:13 PM
                             [**2198-6-1**]  01:45 AM
                             [**2198-6-1**]  02:16 AM
                             [**2198-6-1**]  03:28 AM
   WBC
   8.9
   8.7
   9.2
   16.7
   Hct
   31.9
   27.9
   29.2
   27.5
   29.3
   Plt
   349
   287
   283
   352
   Cr
   0.8
   0.7
   0.7
   0.6
   0.8
   TropT
   0.05
   0.26
   0.27
   TCO2
   43
   36
   35
   36
   Glucose
   [**Telephone/Fax (3) 6231**]01
   163
   Other labs: PT / PTT / INR:14.0/90.3/1.2, CK / CKMB /
   Troponin-T:155/9/0.27, ALT / AST:132/63, Alk Phos / T Bili:148/0.4,
   Amylase / Lipase:/40, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock.
   # Shock:  Unclear whether refractory hypotension is a component of
   cardiac failure or sepsis.  Physical exam demonstrates cool motted
   extremities, initial EKG demonstrates some degree of an acute cardiac
   event with elevated troponins.  Patient refractory to boluses, so
   possibly cardiogenic shock.  However, increased cardiac output, and
   mottling likely due to continued pressor use.  WBC count increased, and
   patient refractory to fluid boluses (8L), could also be a picture of
   septic shock, though not febrile and source unclear (could be previous
   [**Name (NI) 1684**] growing from sputum culture, but unlikely).  Cardiology did not
   wish to do a bedside echo, possible cath today if pt. agrees.  Mixed
   venous O2 sat at 97%, peripheral tissues may not be extracting oxygen,
   possibly consider switching a pressor.
   - Cardiology cath possibly
   - Echo
   - Continue pressors for MAP > 65
   - Cont. IV fluid boluses PRN for MAP > 65
   - Cardiology c/s
   - D/C metoprolol 25mg TID
   - ASA, statin
   # Respiratory Failure:  Patient possibly in ARDS, fluid overloaded on
   exam, possibly also cardiac source, PEEP at 14 currently.  Saturation
   transiently moving down to 87%.  FiO2 at 100%, possibility of ARDS
   fairly likely if continues at this level.  Pt. still having wheezes as
   well, unclear what inciting incident was to cause respiratory drop to
   mid 70
s, possibly cardiac in origin, suctioning did not reveal
   anything.  Most recent gas demonstrates resp. acidosis with pO2 in the
   mid 200
   - PEEP at 14cm, cont. to increase and decrease FiO2 as possible while
   maintaining PO2 above 80
   - Retaining Co2, though auto PEEPing currently, would decrease RR to
   make breathing more synchronous with the machine and then give 3 amps
   of bicarbonate for ensuing resp. acidosis.
   - Cont. sedation
   # Anemia:  Hct stable yesterday.
   .
   # Altered Mental Status:  Pt. sedated and intubated, unable to assess
   at the moment.
   .
   # Transaminitis:  Will monitor again given patient
s hypotension, and
   previous transaminitis in the setting of hypotension
 LFTs trended down.
    .
   # Hypernatremia:  resolved
   - continue to monitor
   - D5W as needed
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-5-31**] 04:46 PM
   Multi Lumen - [**2198-5-31**] 05:56 PM
   22 Gauge - [**2198-5-31**] 08:16 PM
   Arterial Line - [**2198-5-31**] 11:19 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter, wife, contact with Dr. [**Last Name (STitle) 712**]
   [**Name (STitle) 156**] status: Full code
   Disposition: ICU

2198-06-02 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2198-6-1**] 10:09 AM
 EKG - At [**2198-6-2**] 12:30 AM
 EKG - At [**2198-6-2**] 12:54 AM
   Posterior.
 SPUTUM CULTURE - At [**2198-6-2**] 01:00 AM
   Echo- RV hypertrophied and dilated, borderline nl free wall fx, severe
   pulm HTN
   Required 11 L IVF to maintain BPs
   Vasopressin d/c'd. Dopamine increased to 5.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-1**] 11:45 PM
   Infusions:
   Heparin Sodium - 450 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-6-1**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 115 (100 - 138) bpm
   BP: 106/53(67) {88/43(56) - 153/78(104)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 12 (11 - 285)mmHg
   Mixed Venous O2% Sat: 82 - 82
   Total In:
                                                                 13,522 mL
                                                                  1,571 mL
   PO:
   TF:
   IVF:
                                                                 13,522 mL
                                                                  1,571 mL
   Blood products:
   Total out:
                                                                    735 mL
                                                                    147 mL
   Urine:
                                                                    735 mL
                                                                    147 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,787 mL
                                                                  1,424 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/56/116/30/3
   Ve: 9.2 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ETtube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally, wheezes at L base
   Abd:  Soft, NT, distended
   Ext: increasing pitting edema, mottled in LE, warm with bair hugger in
   place, UE less mottled than previous
   Labs / Radiology
   393 K/uL
   8.5 g/dL
   161 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   17.8 K/uL
        [image002.jpg]
                             [**2198-6-1**]  10:45 AM
                             [**2198-6-1**]  11:47 AM
                             [**2198-6-1**]  12:35 PM
                             [**2198-6-1**]  04:06 PM
                             [**2198-6-1**]  04:37 PM
                             [**2198-6-2**]  01:05 AM
                             [**2198-6-2**]  01:34 AM
                             [**2198-6-2**]  02:55 AM
                             [**2198-6-2**]  05:02 AM
                             [**2198-6-2**]  05:22 AM
   WBC
   14.0
   17.8
   Hct
   28.0
   27.1
   Plt
   355
   393
   Cr
   0.8
   0.9
   TropT
   0.11
   0.14
   0.15
   TCO2
   30
   31
   37
   37
   36
   37
   32
   Glucose
   416
   161
   Other labs: PT / PTT / INR:12.6/41.2/1.1, CK / CKMB /
   Troponin-T:111/4/0.15, ALT / AST:41/54, Alk Phos / T Bili:53/0.2,
   Amylase / Lipase:/28, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Echo
   The estimated right atrial pressure is 10-20mmHg. The left ventricular
   cavity is very small. Due to suboptimal technical quality, a focal wall
   motion abnormality cannot be fully excluded. Left ventricular systolic
   function is hyperdynamic (EF 80%). The right ventricular free wall is
   hypertrophied. The right ventricular cavity is dilated with borderline
   normal free wall function. The tricuspid valve leaflets are mildly
   thickened. Moderate [2+] tricuspid regurgitation is seen. There is
   severe pulmonary artery systolic hypertension. There is a
   trivial/physiologic pericardial effusion. There is an anterior space
   which most likely represents a fat pad. There are no echocardiographic
   signs of tamponade.
   Compared with the findings of the prior study (images reviewed) of [**2198-5-23**], the pulmonary artery pressure is further increased.
   IMPRESSION: severe pulmonary hypertension; dilated right ventricle;
   small, hyperdynamic left ventricle
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock.
   # Shock:  Patient with shock of unclear etiology. Requiring multiple
   fluid boluses (11 over 24 hours) to maintain blood pressures as well as
   levophed and dopamine.  Unclear whether refractory hypotension is a
   component of cardiac failure or sepsis. Patient had sudden of shock,
   initial EKG demonstrated some degree of an acute cardiac event,
   resolved on subsequent EKGs. Troponin peaked at 0.27, trended down to
   0.11 now trending, 0.15 this am. Echo is not consistent with
   cardiogenic shock, cardiology following. Concern for PE, currently on
   heparin gtt, CTA deferred yesterday as too unstable to go to CT
   scanner. Also considering septic shock given leukocytosis, however
   afebrile, lactate 1.3 and no obvious source, leukocytosis could be
   consistent with steroids, stress response. On vancomycin and zosyn.
   Also considering adrenal insufficiency given patient
s treatment with
   steroids although other labs not consistent with this etiology. Given
   stress dose steroids last night. Random cortisol level 21.9.
   - R UE, b/l LE u/s to eval DVT
   - Consider CTA if stable enough to go to CT scanner
   - Continue heparin gtt
   - Trend CE
   - F/u cardiology recs
   - Continue vanco/zosyn
   - F/u cultures (negative to date)
   - Continue pressors for MAP > 65
   - Cont. IV fluid boluses PRN for MAP > 65
   - Holding metoprolol 25mg TID
   - ASA, statin
   # Respiratory Failure: Patient with hypoxia with initial event. Patient
   possibly in ARDS, fluid overloaded on exam, possibly also cardiac
   source, PEEP at 14 currently.  FiO2 now at 60%. RR increased to 22
   overnight for hypercarbia. Last ABG 7.34/56/116.
   - Wean PEEP,  FiO2 as tolerated
   - Will monitor closely for autopeeping, patient autopeeping yesterday,
   RR decreased, however increased o/n given CO2.
   - Cont. sedation
   # Anemia:  Hct 27.1 from 28. Trace guaiac + stools.
   - f/u crits
   - transfuse crit < 25
   - PPI
   .
   # Altered Mental Status:  Head CT after episode of unresponsiveness on
   [**5-31**] demonstrating acute changes. Pt intubated. Sedation off since
   midnight without improvement in mental status.
   -  If pt stable to go to CT scanner will repeat head CT
   .
   # Transaminitis:  Will monitor again given patient
s hypotension, and
   previous transaminitis in the setting of hypotension
 LFTs trended down.
    .
   # Hypernatremia:  resolved
   - continue to monitor
   - D5W as needed
   .
   # Hypothyroidism:  continue synthroid
   .
   # Hyperlipidemia:  continue atorvastatin
   .
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition: will start tube feeds, nutrition consult
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-5-31**] 04:46 PM
   Multi Lumen - [**2198-5-31**] 05:56 PM
   22 Gauge - [**2198-5-31**] 08:16 PM
   Arterial Line - [**2198-5-31**] 11:19 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2198-06-03 07:40:00 Physician Resident Progress Note
24 Hour Events:
   -Trops trending down
   -Changed code status to DNR
   -Echo shows increased pulm a. pressure and pulmonary HTN
   - B/L UE US:  Soft tissue edema. No clot. Multiple hypoechoic rounded
   nodules, likely represent lymph nodes, on the left.
   -more PVCs on tele
   +3.8L
   -dopamine weaned off
   -levophed at 0.1 (minimal)
   HCT drop -giving 2 units this AM
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-2**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-3**] 12:10 AM
   Infusions:
   Heparin Sodium - 450 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-6-2**] 08:00 AM
   Midazolam (Versed) - [**2198-6-3**] 06:26 AM
   Fentanyl - [**2198-6-3**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-3**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 94 (80 - 119) bpm
   BP: 157/48(80) {82/37(53) - 157/62(89)} mmHg
   RR: 29 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 11 (6 - 19)mmHg
   CO/CI (Fick): (10.7 L/min) / (5.6 L/min/m2)
   Mixed Venous O2% Sat: 76 - 76
                                Total In:
                                                                  4,099 mL
                                                                    840 mL
   PO:
                                TF:
                                                                    225 mL
                                                                    274 mL
   IVF:
                                                                  3,694 mL
                                                                    301 mL
   Blood products:
   204 mL
   Total out:
                                                                    747 mL
                                                                    245 mL
   Urine:
                                                                    667 mL
                                                                    245 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,352 mL
                                                                    595 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.45/39/91.[**Numeric Identifier 253**]/28/2
   Ve: 10.3 L/min
   PaO2 / FiO2: 115
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ETtube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally, wheezes at L base
   Abd: Left flank ecchymosis stretching from pelvis to middle arm, Soft,
   NT, distended
   Ext: increasing pitting edema, mottled in LE, warm with bair hugger in
   place, UE less mottled than previous
   Labs / Radiology
   316 K/uL
   7.2 g/dL
   249 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   102 mEq/L
   136 mEq/L
   22.1 %
   10.4 K/uL
        [image002.jpg]
                                     pH
                                    7.45
                                    pCO2
                                     39
                                     pO2
                                     92
                                    HCO3
                                     28
                                   BaseXS
                                      2
   Type:Mix; Temp:36.2
   O2Sat: 76
                             [**2198-6-2**]  01:34 AM
                             [**2198-6-2**]  02:55 AM
                             [**2198-6-2**]  05:02 AM
                             [**2198-6-2**]  05:22 AM
                             [**2198-6-2**]  12:27 PM
                             [**2198-6-2**]  12:52 PM
                             [**2198-6-2**]  05:36 PM
                             [**2198-6-2**]  05:47 PM
                             [**2198-6-3**]  03:00 AM
                             [**2198-6-3**]  03:13 AM
   WBC
   17.8
   10.4
   Hct
   27.1
   22.1
   Plt
   393
   316
   Cr
   0.9
   0.9
   0.8
   TropT
   0.15
   0.11
   TCO2
   36
   37
   32
   32
   33
   28
   Glucose
   161
   197
   249
   Other labs: PT / PTT / INR:15.2/69.0/1.3, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:41/54, Alk Phos / T Bili:53/0.2,
   Amylase / Lipase:/28, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:2.3 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   -C. Diff negative x 2
   -U Cx [**6-1**]: negative
   -Sputum [**6-2**]: pending
   -B Cx [**6-1**] x 2: pending
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Anemia:  Hct at 22, possible RP bleed given flank ecchymosis. Trace
   guaiac + stools.  Giving 2 units today.
   - f/u crits
   - CT Abd/Pelvis, CT head, and CTA chest to rule out RP bleed, head
   bleed, and PE.
   - transfuse crit < 25
   - PPI
   - Discontinue heparin gtt
   .
   # Shock:  Patient with fewer episodes of hypotension yesterday.
   Dopamine now weaned off, levophed at 0.1 mcg.  Unclear whether initial
   refractory hypotension was a component of cardiac failure or sepsis.
   Patient had sudden of shock, initial EKG demonstrated some degree of an
   acute cardiac event, resolved on subsequent EKGs. Troponin peaked at
   0.27, trended down to 0.11. Echo is not consistent with cardiogenic
   shock, cardiology following. Concern for PE, currently on heparin gtt,
   CTA being considered.  No clot on B/L UE U/S. Also considering septic
   shock given leukocytosis, however afebrile, lactate 1.3 and no obvious
   source, leukocytosis could be consistent with steroids, stress
   response.  Currently at 22.1.  On vancomycin and zosyn. Also
   considering adrenal insufficiency given patient
s treatment with
   steroids although other labs not consistent with this etiology. On
   stress dose steroids.
   - Decrease steroids
   - Trend CE
   - F/u cardiology recs
   - Continue vanco/zosyn
   - F/u cultures (negative to date)
   - Continue pressors for MAP > 65
   - Cont. IV fluid boluses PRN for MAP > 65
   - Holding metoprolol 25mg TID
   - ASA, statin
   # Respiratory Failure: Patient with hypoxia with initial event. Patient
   possibly in ARDS, fluid overloaded on exam, possibly also cardiac
   source, PEEP at 10 currently.  FiO2 now at 80%. RR at 22 for initial
   hypercarbia. Last ABG7.45/39/92.
   - Wean PEEP,  FiO2 as tolerated
   - Will monitor closely for autopeeping
   - Cont. sedation
   .
   # Altered Mental Status:  Head CT after episode of unresponsiveness on
   [**5-31**] demonstrating acute changes. Pt intubated. Sedation off since
   midnight without improvement in mental status.
   -  If pt stable to go to CT scanner will repeat head CT
   .
   # Transaminitis:  Will monitor again given patient
s hypotension, and
   previous transaminitis in the setting of hypotension
 LFTs trending down.
    .
   # Hypernatremia:  resolved
   - continue to monitor
   - D5W as needed
   .
   # Hypothyroidism:  continue synthroid
   .
   # Hyperlipidemia:  continue atorvastatin
   .
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2198-6-2**] 11:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-5-31**] 04:46 PM
   Multi Lumen - [**2198-5-31**] 05:56 PM
   Arterial Line - [**2198-5-31**] 11:19 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-03 10:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2198-6-2**] 08:00 AM
   c-diff
 ULTRASOUND - At [**2198-6-2**] 11:31 AM
   arms
 EKG - At [**2198-6-2**] 03:00 PM
 pressors weaned off
 hct drop
 new lt flank ecchymosis
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-3**] 08:00 AM
   Vancomycin - [**2198-6-3**] 08:30 AM
   Infusions:
   Heparin Sodium - 450 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-6-3**] 08:00 AM
   Midazolam (Versed) - [**2198-6-3**] 08:00 AM
   Fentanyl - [**2198-6-3**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-3**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.3
   HR: 89 (70 - 113) bpm
   BP: 168/53(87) {82/30(45) - 202/68(114)} mmHg
   RR: 27 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 11 (6 - 14)mmHg
   CO/CI (Fick): (10.7 L/min) / (5.6 L/min/m2)
   Mixed Venous O2% Sat: 76 - 76
                               Total In:
                                                                  4,129 mL
                                                                  1,757 mL
   PO:
                               TF:
                                                                    225 mL
                                                                    372 mL
   IVF:
                                                                  3,724 mL
                                                                    675 mL
   Blood products:
   570 mL
   Total out:
                                                                    747 mL
                                                                    325 mL
   Urine:
                                                                    667 mL
                                                                    325 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,382 mL
                                                                  1,438 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.45/39/91.[**Numeric Identifier 253**]/28/2
   Ve: 10.3 L/min
   PaO2 / FiO2: 115
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   316 K/uL
   249 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   102 mEq/L
   136 mEq/L
   22.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2198-6-2**]  01:34 AM
                             [**2198-6-2**]  02:55 AM
                             [**2198-6-2**]  05:02 AM
                             [**2198-6-2**]  05:22 AM
                             [**2198-6-2**]  12:27 PM
                             [**2198-6-2**]  12:52 PM
                             [**2198-6-2**]  05:36 PM
                             [**2198-6-2**]  05:47 PM
                             [**2198-6-3**]  03:00 AM
                             [**2198-6-3**]  03:13 AM
   WBC
   17.8
   10.4
   Hct
   27.1
   22.1
   Plt
   393
   316
   Cr
   0.9
   0.9
   0.8
   TropT
   0.15
   0.11
   TCO2
   36
   37
   32
   32
   33
   28
   Glucose
   161
   197
   249
   Other labs: PT / PTT / INR:15.2/69.0/1.3, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:41/54, Alk Phos / T Bili:53/0.2,
   Amylase / Lipase:/28, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:2.3 mmol/L, Albumin:2.3 g/dL, LDH:187 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85M h\o laryngeal CA s/p laryngectomy w/ permanent tracheostomy
   presented sudden unresponsiveness, refractory hypotension, ST elevation
   on EKG with troponin leak, with elevated WBC, possibly cardiogenic or
   septic shock.

SHOCK
   -Etiology remains unclear.  Cardiogenic (though no change in echo in
   terms of new WMA or change in EF, mixed venous sat and lactate not
   suggestive) vs. septic (fever, wbc up though on steroids, mixed venous
   sat consistent) vs. PE (fluid dependency/responsiveness c/w).
   -pressors now off, improved hemodynamics
   -empiric abx coverage pending cx data
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -Cont require mech ventilation
   -Will attempt to wean PEEP
 MYOCARDIAL INFARCTION, ACUTE STEMI
   -Echo without significant change in EF or new WMA
   -no evidence of further ischemia
 New Lt flank ecchymosis
   -in setting of [**Month (only) 453**] hct concerning for bleed
   -hold heparin while assessing
   -CT abd to assess
MENTAL STATUS
   -pt not responsive
   -assess head ct while down at scanner to r/o bleed/other etiol, esp
   given t-wave changes ekg.
 ATRIAL FIBRILLATION (AFIB)

 ? PE
   -given timing of decompensation with line pull, raises question of clot
   mobilization line pull
   -b/l UE U/S negative for clot
   -empiric heparin on hold 2ndry concern bleeding flank
? SEPSIS
   hypothermic, inc down WNL today (though on steroids)
   broad spectrum abx pending cx data
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RENAL
   Oliguric though creat not yet bumped

 ANEMIA
   -serial hct
   -? bleeding into flank - CT to assess
   -guiac
   - PPI
    Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2198-6-2**] 11:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-5-31**] 04:46 PM
   Multi Lumen - [**2198-5-31**] 05:56 PM
   Arterial Line - [**2198-5-31**] 11:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 50 minutes
   Patient is critically ill

2198-06-04 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2198-6-3**] 10:00 AM
   - Patient had a L. flank ecchymosis concerning for RP bleed in light of
   crit drop from 27.1 to 22, heparin gtt stopped, given 2 units, sent for
   CT head, CTA chest, and CT abd/pelvis.
   - CT head negative for any ICP
   - CTA chest negative for PE
   - CT abd/pelvis shows some free fluid in abdomen but NOT blood.  Also,
   bilateral renal cysts evident.  Initially thought to be urine from
   bladder perforation, CT cystogram obtained which demonstrated no
   contrast extravasation into peritoneum.
   - Bumped only to 23 from 22 after 2 units, given another 2 units and
   sent off hemolysis labs from blood draw prior to any transfusions.
   - BP now hypertensive to the 180's, given 25mg metoprolol with no
   effect, then given 10 mg IV labetolol with BP drop to 110's and then
   back up to 180's.  Now on 200mg labetolol [**Hospital1 **], given also 10mg IV
   hydral x 1.
   - Desaturated to 90's with PO2 of 54, increased his PEEP from 10 to 15,
   given lasix 20mg IV x 1 given
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-3**] 08:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-3**] 11:31 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-6-3**] 08:00 AM
   Labetalol - [**2198-6-3**] 04:15 PM
   Hydralazine - [**2198-6-4**] 03:11 AM
   Fentanyl - [**2198-6-4**] 03:48 AM
   Midazolam (Versed) - [**2198-6-4**] 03:48 AM
   Furosemide (Lasix) - [**2198-6-4**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 93 (50 - 99) bpm
   BP: 147/55(79) {93/30(45) - 202/70(114)} mmHg
   RR: 29 (21 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 5 (3 - 15)mmHg
   Total In:
                                                                  4,518 mL
                                                                    258 mL
   PO:
   TF:
                                                                    690 mL
                                                                    198 mL
   IVF:
                                                                  2,048 mL
                                                                     60 mL
   Blood products:
                                                                  1,400 mL
   Total out:
                                                                    910 mL
                                                                    640 mL
   Urine:
                                                                    910 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,608 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 92%
   ABG: 7.47/41/63/31/5
   Ve: 9.9 L/min
   PaO2 / FiO2: 63
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ETtube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally, wheezes at L base
   Abd: Left flank ecchymosis stretching from pelvis to middle arm, Soft,
   NT, distended
   Ext: increasing pitting edema, mottled in LE, warm with bair hugger in
   place, UE less mottled than previous
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   11.2 g/dL
   165 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   137 mEq/L
   32.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2198-6-2**]  05:36 PM
                             [**2198-6-2**]  05:47 PM
                             [**2198-6-3**]  03:00 AM
                             [**2198-6-3**]  03:13 AM
                             [**2198-6-3**]  03:11 PM
                             [**2198-6-3**]  04:59 PM
                             [**2198-6-4**]  02:35 AM
                             [**2198-6-4**]  02:37 AM
                             [**2198-6-4**]  04:13 AM
                             [**2198-6-4**]  06:06 AM
   WBC
   10.4
   8.6
   11.3
   Hct
   22.1
   23.9
   32.6
   Plt
   [**Telephone/Fax (3) 6266**]
   Cr
   0.9
   0.8
   0.8
   0.8
   TCO2
   33
   28
   33
   33
   32
   31
   Glucose
   197
   249
   225
   165
   Other labs: PT / PTT / INR:14.3/29.4/1.2, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:41/54, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/28, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:2.3 mmol/L, Albumin:2.3 g/dL, LDH:275 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   CT ABD/PELVIS:
   1. Anasarca
   2. Moderate amount of free fluid in the abdominal pelvic cavity.
   3. Focal infrarenal abdominal aortic aneurysm, measuring up to 34 mm.
   3. Colonic diverticulosis.
   4. Multiple bilateral renal cysts.
   5. The tip of the Foley catheter projects beyond the urinary bladder
   wall,
   but probably still contained inside the urinary bladder. If clinically
   warranted, a CT cystogram is suggested to confirm the position of the
   foley
   catheter tip within the bldder.
   CT CHEST:
   CT HEAD: No acute intracranial process.
   Assessment and Plan
 85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Anemia:  Hct at 22, possible RP bleed given flank ecchymosis. Trace
   guaiac + stools.  Heparin gtt d/c
d. Received 2 units pRBCs with crit
   to 23. CT abd/pelvis showed free fluid in abdomen, but thought not to
   be blood, ? bladder perforation. 2 additional units pRBCs given with
   crit increase to 32.6. CT cystogram shows no extravasation from
   bladder.
   - tid crits
   - transfuse crit < 25
   - PPI
   - Hold heparin gtt
   - hemolysis labs
   .
   # Shock:  Patient with hypotension after unresponsive event.  Unclear
   whether initial refractory hypotension was a component of cardiac
   failure or sepsis. Patient had sudden of shock, initial EKG
   demonstrated some degree of an acute cardiac event, resolved on
   subsequent EKGs. Troponin peaked at 0.27, trended down to 0.11. Echo is
   not consistent with cardiogenic shock, cardiology following. Concern
   for PE, currently on heparin gtt, CTA [**6-3**] showed no PE. Also
   considered septic shock given leukocytosis, however afebrile, lactates
   wnl and no obvious source, leukocytosis could be consistent with
   steroids, stress response, now trended down to 11.3. On vancomycin and
   zosyn. Also considering adrenal insufficiency given patient
s treatment
   with steroids although other labs not consistent with this etiology.
   Pressors now off and episodes of hypertension yesterday.
   - Continue vanco/zosyn
   - F/u cultures (negative to date)
   - Maintain MAP > 65
   - F/u cardiology recs
   - ASA, statin
   - Continue steroids
   .
   # Hypertension: hypertensive to the 180's, given 25mg metoprolol with
   no effect, then given 10 mg IV labetolol with BP drop to 110's and then
   back up to 180's.  Now on 200mg labetolol [**Hospital1 **], given also 10mg IV
   hydral x 1. Was previously on metoprolol 25 mg tid.
   - Continue labetolol
   - Continue to monitor BPs.
   .
   # Respiratory Failure: Patient with hypoxia with initial event. Patient
   possibly in ARDS, fluid overloaded on exam, possibly also cardiac
   source, - Desaturated to 90's with PO2 of 54 overnight, PEEP increased
   from 10 to 15, FiO2 to 100% given lasix 20mg IV x 1. Last ABG
   7.47/41/63.
   - Wean PEEP,  FiO2 as tolerated
   - Will monitor closely for autopeeping
   - Cont. sedation
   .
   # Altered Mental Status:  Head CT after episode of unresponsiveness on
   [**5-31**] demonstrating acute changes. Pt intubated.
   - Repeat head CT shows no acute intracranial process.
   .
   # Transaminitis:  Will monitor again given patient
s hypotension, and
   previous transaminitis in the setting of hypotension
 LFTs trending down.
    .
   # Hypernatremia:  Resolved. 137 today.
   - continue to monitor sodium.
   .
   # Hypothyroidism:  continue synthroid
   .
   # Hyperlipidemia:  continue atorvastatin
   .
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-3**] 11:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-5-31**] 04:46 PM
   Multi Lumen - [**2198-5-31**] 05:56 PM
   Arterial Line - [**2198-5-31**] 11:19 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-05 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2198-6-4**] 03:30 PM
   -40 mg IV lasix x 3, 1.7 L neg over 24 hours
   -haptoglobin 173, LDH 339
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-4**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-5**] 12:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-6-4**] 10:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 71 (70 - 94) bpm
   BP: 128/46(65) {82/33(45) - 167/64(93)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,829 mL
                                                                    440 mL
   PO:
             TF:
                                                                    790 mL
                                                                    241 mL
   IVF:
                                                                    779 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                  1,770 mL
   Urine:
                                                                  3,510 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,681 mL
                                                                 -1,330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   SpO2: 98%
   ABG: 7.46/48/69/33/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 99
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ETtube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally
   Abd: Left flank ecchymosis stretching from pelvis to middle arm, Soft,
   NT, distended
   Ext: 2+ edema,
   Skin:  warm under bair hugger
   Neurologic: sedated
   Labs / Radiology
   281 K/uL
   11.9 g/dL
   204 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.8 mEq/L
   30 mg/dL
   98 mEq/L
   137 mEq/L
   34.8 %
   12.9 K/uL
        [image002.jpg]
                             [**2198-6-4**]  02:37 AM
                             [**2198-6-4**]  04:13 AM
                             [**2198-6-4**]  06:06 AM
                             [**2198-6-4**]  10:31 AM
                             [**2198-6-4**]  02:06 PM
                             [**2198-6-4**]  05:01 PM
                             [**2198-6-4**]  07:41 PM
                             [**2198-6-4**]  10:43 PM
                             [**2198-6-5**]  03:30 AM
                             [**2198-6-5**]  03:34 AM
   WBC
   12.9
   Hct
   33.5
   34.8
   Plt
   281
   Cr
   0.9
   0.9
   TCO2
   33
   32
   31
   33
   32
   33
   35
   Glucose
   184
   204
   Other labs: PT / PTT / INR:12.5/23.6/1.1, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:31/67, Alk Phos / T Bili:58/0.4,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:375 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Anemia:  Hct at 22  yesterday, ?  bleeding into L flank, back SQ
   tissue given ecchymosis, CT abd showed free fluid but thought not to be
   blood. Trace guaiac + stools.  Heparin gtt d/c
d. Responded
   appropriately to 4 units pRBCs with crit increased to 32.6.
   - tid crits
   - transfuse crit < 25
   - PPI
   - Hold heparin gtt
   - hemolysis labs
   .
   # Shock:  Patient with hypotension after unresponsive event.  Unclear
   whether initial refractory hypotension was a component of cardiac
   failure or sepsis. Patient had sudden of shock, initial EKG
   demonstrated some degree of an acute cardiac event, resolved on
   subsequent EKGs. Troponin peaked at 0.27, trended down to 0.11. Echo is
   not consistent with cardiogenic shock, cardiology following. Concern
   for PE, initially on heparin gtt, CTA [**6-3**] showed no PE, heparin gtt
   now d/c
d. Also considered septic shock given leukocytosis, however
   afebrile, lactates wnl and no obvious source, leukocytosis could be
   consistent with steroids, stress response, now trended down to 11.3. On
   vancomycin and zosyn. Also considered adrenal insufficiency given
   patient
s treatment with steroids although other labs not consistent
   with this etiology. Pressors now off and episodes of hypertension
   yesterday.
   - Continue vanco/zosyn x 7 days
   - F/u cultures (negative to date)
   - Maintain MAP > 65
   - ASA, statin
   - Continue steroids
   .
   # Hypertension: Hypertensive to the 180's,significantly fluid
   overloaded and I/Os LOS 25 liters positive. Overnight was given PO
   metoprolol, IV labetalol 10 mg, and IV hydralazine. Was previously on
   metoprolol 25 mg tid, but had been held in setting of hypotension.  Now
   on 200 mg labetolol [**Hospital1 **].
   - Continue labetolol
   - Diuresis with lasix, goal 1 L net negative
   - Continue to monitor BPs.
   .
   # Respiratory Failure: Patient with hypoxia with initial event. Likely
   now fluid overloaded in setting of 25 L positive LOS. Also consider
   pneumonia, ARDS, or possible cardiac etiology.  Desaturated to 90's
   with PO2 of 54 overnight, PEEP increased from 10 to 15, FiO2 to 100%
   given lasix 20mg IV x 1. Last ABG 7.47/41/63.
   - Wean FiO2 as tolerated
   - Lasix for diuresis goal of 1 L net negative today
   - Continue abx as above
   - Will monitor closely for autopeeping
   - Cont. sedation
   .
   # Altered Mental Status:  Head CT after episode of unresponsiveness on
   [**5-31**] demonstrating acute changes. Pt intubated.
   - Repeat head CT shows no acute intracranial process.
   .
   # Transaminitis:  Will monitor again given patient
s hypotension, and
   previous transaminitis in the setting of hypotension and abdomen/flank
   ecchymosis.
 Recheck LFTs, lipase
    .
   # Hypernatremia:  Resolved. 137 today.
   - continue to monitor sodium.
   .
   # Hypothyroidism:  continue synthroid
   .
   # Hyperlipidemia:  continue atorvastatin
   .
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-4**] 05:54 PM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-5-31**] 04:46 PM
   Multi Lumen - [**2198-5-31**] 05:56 PM
   Arterial Line - [**2198-5-31**] 11:19 PM
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-06 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EEG prelim: encephalopathy
   - given lasix x 1
   - added fluconazole for fungal skin infection
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-5**] 09:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-6-5**] 09:30 PM
   Midazolam (Versed) - [**2198-6-6**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-6**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 68 (60 - 95) bpm
   BP: 121/41(60) {106/38(53) - 180/66(99)} mmHg
   RR: 22 (6 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,746 mL
                                                                    502 mL
   PO:
             TF:
                                                                    841 mL
                                                                    243 mL
   IVF:
                                                                    740 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,330 mL
   Urine:
                                                                  2,600 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -854 mL
                                                                   -827 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.46/54/95.[**Numeric Identifier 252**]/36/12
   Ve: 8.7 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ET tube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally
   Abd: Left flank ecchymosis stretching from pelvis to middle arm, Soft,
   NT, distended
   Ext: 2+ edema, skin tear dorsum R hand
   Skin:  warm
   Neurologic: unresponsive off sedation
   Labs / Radiology
   229 K/uL
   10.6 g/dL
   204 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.9 mEq/L
   34 mg/dL
   97 mEq/L
   139 mEq/L
   31.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2198-6-4**]  05:01 PM
                             [**2198-6-4**]  07:41 PM
                             [**2198-6-4**]  10:43 PM
                             [**2198-6-5**]  03:30 AM
                             [**2198-6-5**]  03:34 AM
                             [**2198-6-5**]  03:27 PM
                             [**2198-6-5**]  04:15 PM
                             [**2198-6-5**]  09:16 PM
                             [**2198-6-6**]  03:23 AM
                             [**2198-6-6**]  03:46 AM
   WBC
   12.9
   10.8
   Hct
   33.5
   34.8
   30.8
   31.4
   Plt
   281
   229
   Cr
   0.9
   0.9
   0.9
   0.9
   TCO2
   33
   35
   39
   40
   Glucose
   184
   204
   161
   204
   Other labs: PT / PTT / INR:12.5/23.6/1.1, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:30/63, Alk Phos / T Bili:56/0.3,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:346 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Unresponsive events: Differential diagnosis includes (i) ACS (+mild
   CE, STE) currently on medical management with asa, BB, statin, ACEi
   (heparin held for concern of active bleeding in setting of HCT drop and
   bruising).  (ii) infection of unclear etiology given leukocytosis;
   currently on empiric vanc and pip/tazo. Cultures show no growth to
   date. (iii) non convulsive status epilepticus (head CT negative for
   lesion/bleed). (iv) CTA demonstrated no PE.
   - D/c abx as afebrile, wbc decreased, and cultures with NGTD
   - EEG prelim shows encephalopathy
   # Respiratory Failure: Unresponsive event with hypoxia [**5-31**] requiring
   intubation, now complicated by volume overload (21lt+LOS):  Concurrent
   metabolic alkalosis may complicate weaning efforts. Initially was
   treated for COPD exacerbation and pneumonia.  Given lasix 40 mg IV x 1
   with 850 net negative over 24 hours.  Also Last ABG 7.46/54/95.
   - Aggressive diuresis, goal 2 L net negative today
   - Transition methylpred to prednisone, will need prednisone taper
   - MDIs
   - Acetazolamide given metabolic alkalosis
   - wean FiO2 as tolerated.
   # Normocytic anemia:  Hct stable to 31.4 for  34.8 after pRBC [**2198-6-3**].
   Large flank ecchymosis but CT abdomen negative for overt bleed. Heparin
   drip d/c
   - [**Hospital1 **] HCT, transfuse for Hct <24
   - PPI
   - Guaiac stools
   .
   # Hypertension: Labile BPs. Persistently hypotensive after unresponsive
   event, required 20+ L fluids plus pressors. Now off pressors with
   episodes of hypertension.
   - Continue metoprolol, captopril and prn hydralazine.
   .
   # Altered Mental Status:  Head CT after episode of unresponsiveness on
   [**5-31**] demonstrating acute changes. Pt intubated, unarousable off
   sedation, no purposeful movements.
   - Repeat head CT shows no acute intracranial process.
   - EEG prelim: encephalopathy
   - Continue to hold sedation
   - Consider repeat head CT in next few days if MS does not improve
   .
   # Fungal skin infection: On back. Currently on fluconazole.
   -Consider switching to topical nystatin.
   .
   # Transaminitis:  Hepatic hypoperfusion. Monitoring levels (ALT 30, AST
   63 on [**2198-6-6**]).
   .
   # Hypothyroidism:  continue synthroid
   .
   # Hyperlipidemia:  continue atorvastatin
   .
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-5**] 05:52 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2198-5-31**] 05:56 PM, plan to d/c today
   Arterial Line - [**2198-5-31**] 11:19 PM
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition: ICU

2198-06-07 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EEG read still not finalized
   - PSV 22/15, 70% --> [**1-8**], 60% -> [**1-5**], 60% (7.5/50/158)
   - ABG 7.5/50/158. Likely contraction alkalosis.
   - CVL pulled.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-5**] 09:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-6**] 07:54 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-6-6**] 12:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-7**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 75 (62 - 87) bpm
   BP: 173/72(103) {98/34(48) - 173/72(103)} mmHg
   RR: 24 (0 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,628 mL
                                                                    362 mL
   PO:
             TF:
                                                                    848 mL
                                                                    250 mL
   IVF:
                                                                    440 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    820 mL
   Urine:
                                                                  3,080 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,952 mL
                                                                   -458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 420 (375 - 534) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.47/51/91.[**Numeric Identifier 253**]/35/11
   Ve: 8.9 L/min
   PaO2 / FiO2: 153
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ET tube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally
   Abd: Left flank ecchymosis stretching from pelvis to middle arm, Soft,
   NT, distended
   Ext: 2+ edema, skin tear dorsum R hand
   Skin:  warm
   Neurologic: unresponsive off sedation
   Labs / Radiology
   243 K/uL
   9.7 g/dL
   163 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.5 mEq/L
   38 mg/dL
   100 mEq/L
   140 mEq/L
   29.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2198-6-5**]  03:34 AM
                             [**2198-6-5**]  03:27 PM
                             [**2198-6-5**]  04:15 PM
                             [**2198-6-5**]  09:16 PM
                             [**2198-6-6**]  03:23 AM
                             [**2198-6-6**]  03:46 AM
                             [**2198-6-6**]  05:37 PM
                             [**2198-6-6**]  05:46 PM
                             [**2198-6-7**]  12:53 AM
                             [**2198-6-7**]  03:19 AM
   WBC
   10.8
   11.0
   Hct
   30.8
   31.4
   29.6
   Plt
   229
   243
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   35
   39
   40
   40
   38
   Glucose
   161
   204
   236
   163
   Other labs: PT / PTT / INR:12.5/23.6/1.1, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Unresponsive events: Differential diagnosis includes (i) ACS (+mild
   CE, STE) currently on medical management with asa, BB, statin, ACEi
   (heparin held for concern of active bleeding in setting of HCT drop and
   bruising).  (ii) infection of unclear etiology given leukocytosis;
   currently on empiric vanc and pip/tazo. Cultures show no growth to
   date. (iii) non convulsive status epilepticus (head CT negative for
   lesion/bleed). (iv) CTA demonstrated no PE.
   - D/c abx as afebrile, wbc decreased, and cultures with NGTD
   - EEG prelim shows encephalopathy
   # Respiratory Failure: Unresponsive event with hypoxia [**5-31**] requiring
   intubation, now complicated by volume overload (21lt+LOS):  Concurrent
   metabolic alkalosis may complicate weaning efforts. Initially was
   treated for COPD exacerbation and pneumonia.  Given lasix 40 mg IV x 1
   with 850 net negative over 24 hours.  Also Last ABG 7.46/54/95.
   - Aggressive diuresis, goal 2 L net negative today
   - Transition methylpred to prednisone, will need prednisone taper
   - MDIs
   - Acetazolamide given metabolic alkalosis
   - wean FiO2 as tolerated.
   # Normocytic anemia:  Hct stable to 31.4 for  34.8 after pRBC [**2198-6-3**].
   Large flank ecchymosis but CT abdomen negative for overt bleed. Heparin
   drip d/c
   - [**Hospital1 **] HCT, transfuse for Hct <24
   - PPI
   - Guaiac stools
   # Hypertension: Labile BPs. Persistently hypotensive after unresponsive
   event, required 20+ L fluids plus pressors. Now off pressors with
   episodes of hypertension.
   - Continue metoprolol, captopril and prn hydralazine.
   # Altered Mental Status:  Head CT after episode of unresponsiveness on
   [**5-31**] demonstrating acute changes. Pt intubated, unarousable off
   sedation, no purposeful movements.
   - Repeat head CT shows no acute intracranial process.
   - EEG prelim: encephalopathy
   - Continue to hold sedation
   - Consider repeat head CT in next few days if MS does not improve
   # Fungal skin infection: On back. Currently on fluconazole.
   -Consider switching to topical nystatin.
   # Transaminitis:  Hepatic hypoperfusion. Monitoring levels (ALT 30, AST
   63 on [**2198-6-6**]).
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-6**] 05:33 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-5-31**] 11:19 PM
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-08 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fluc d/c'd
   - Good urine output with lasix 40 mg x 1, repeated
   - Captopril held for low SBP
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-6-5**] 09:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-6**] 07:54 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-6-8**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-8**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 71 (58 - 83) bpm
   BP: 129/41(63) {99/30(47) - 156/56(86)} mmHg
   RR: 21 (0 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,355 mL
                                                                    351 mL
   PO:
             TF:
                                                                    860 mL
                                                                    240 mL
   IVF:
                                                                    240 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                  3,030 mL
   Urine:
                                                                  3,800 mL
                                                                  2,280 mL
   NG:
   Stool:
   750 mL
   Drains:
   Balance:
                                                                 -2,445 mL
                                                                 -2,679 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 368 (317 - 442) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: 7.39/64/106/34/11
   Ve: 7.4 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Gen: Intubated
   HEENT:  PERRLA, ET tube in place through stoma, MMM
   Neck:  supple
   CV:  RRR, no murmurs
   Lungs:  crackles bilaterally
   Abd: Left flank ecchymosis stretching from pelvis to middle arm, Soft,
   NT, distended
   Ext: 2+ edema, skin tear dorsum R hand
   Skin:  warm
   Neurologic: unresponsive off sedation
   Labs / Radiology
   214 K/uL
   9.7 g/dL
   131 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.7 mEq/L
   40 mg/dL
   103 mEq/L
   141 mEq/L
   29.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2198-6-5**]  09:16 PM
                             [**2198-6-6**]  03:23 AM
                             [**2198-6-6**]  03:46 AM
                             [**2198-6-6**]  05:37 PM
                             [**2198-6-6**]  05:46 PM
                             [**2198-6-7**]  12:53 AM
                             [**2198-6-7**]  03:19 AM
                             [**2198-6-7**]  05:20 PM
                             [**2198-6-7**]  05:27 PM
                             [**2198-6-8**]  04:15 AM
   WBC
   10.8
   11.0
   10.8
   Hct
   30.8
   31.4
   29.6
   29.9
   Plt
   [**Telephone/Fax (3) 6392**]
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   40
   40
   38
   40
   Glucose
   [**Telephone/Fax (3) 6393**]95
   131
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Unresponsive events, AMS: Differential diagnosis includes (i) ACS
   (+mild CE, STE) currently on medical management with asa, BB, statin,
   ACEi (heparin held for concern of active bleeding in setting of HCT
   drop and bruising).  (ii) leukocytosis improving; cx NGTD; vanc and
   pip/tazo d/c
d [**2198-6-6**]. (iii) neurologic, with evidence of
   encephalopathy on prelim EEG, final read pnd; (head CT negative for
   lesion/bleed). (iv) CTA demonstrated no PE.
   - monitor
   # Respiratory Failure: h/o COPD, h/o unresponsiveness, s/p CMV now on
   CPAP. Continues to be volume overloaded (15lt+LOS). Trach mask trial
   for 30 min.
   - Aggressive diuresis, goal 2 L net negative today
   - Transition methylpred to prednisone, will need prednisone taper
   - MDIs
   - D/C Acetazolamide
   # Normocytic anemia:  Hct stable after pRBC [**2198-6-3**]. Large flank
   ecchymosis but CT abdomen negative for overt bleed. Heparin drip d/c
   - [**Hospital1 **] HCT, transfuse for Hct <24
   - PPI
   - Guaiac stools
   # Hypertension: Labile BPs. Persistently hypotensive after unresponsive
   event, required 20+ L fluids plus pressors. Now off pressors with
   episodes of hypertension.
   - Continue metoprolol, captopril and prn hydralazine.
   # Fungal skin infection: On back. Currently on fluconazole.
   # Transaminitis:  Hepatic hypoperfusion. Monitoring levels
   # Hypothyroidism:  continue synthroid
   # Hyperlipidemia:  continue atorvastatin
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-7**] 04:45 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-5-31**] 11:19 PM
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  Family meeting today
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2198-06-10 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events overnight.  Remains unresponsive.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-10**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 98 (81 - 104) bpm
   BP: 128/45(65) {104/35(50) - 152/59(73)} mmHg
   RR: 32 (0 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,140 mL
                                                                    387 mL
   PO:
                  TF:
                                                                    840 mL
                                                                    267 mL
   IVF:
   Blood products:
   Total out:
                                                                  4,430 mL
                                                                  1,600 mL
   Urine:
                                                                  4,430 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,290 mL
                                                                 -1,213 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (316 - 397) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///36/
   Ve: 10.5 L/min
   Physical Examination
   Gen:  sitting up in chair,  unresponsive
   HEENT: Trach in place
   Chest: coarse bs bl R>L
   CV: RRR, S1S2
   Abd: soft, ND
   Neuro: unresponsive to voice or nailbed pressure
   Labs / Radiology
   226 K/uL
   9.4 g/dL
   175 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.7 mEq/L
   41 mg/dL
   101 mEq/L
   141 mEq/L
   29.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2198-6-6**]  05:46 PM
                             [**2198-6-7**]  12:53 AM
                             [**2198-6-7**]  03:19 AM
                             [**2198-6-7**]  05:20 PM
                             [**2198-6-7**]  05:27 PM
                             [**2198-6-8**]  04:15 AM
                             [**2198-6-8**]  05:40 PM
                             [**2198-6-9**]  05:59 AM
                             [**2198-6-9**]  07:38 AM
                             [**2198-6-10**]  03:13 AM
   WBC
   11.0
   10.8
   9.4
   9.2
   Hct
   29.6
   29.9
   27.8
   29.0
   Plt
   243
   214
   204
   226
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   TCO2
   40
   38
   40
   Glucose
   163
   195
   131
   [**Telephone/Fax (3) 6471**]
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Unresponsive events, AMS: most likely ACS with possible brain injury.
   - currently on medical management with asa, BB, statin, ACEi (heparin
   held for concern of active bleeding in setting of HCT drop and
   bruising).
   - leukocytosis resolved; cx NGTD; vanc and pip/tazo d/c
d [**2198-6-6**].
   - EEG nonspecific
   - head CT negative for lesion/bleed
   - consider family meeting to discuss goals of care
   - may consider neurology consult if no significant change by tomorrow
   # Respiratory Failure: h/o COPD, h/o unresponsiveness, s/p CMV now on
   CPAP. 3.2 L negative overnight, but continues to be volume overloaded
   (10lt+LOS).
   - successfully extubated [**6-9**]
   - diuresis, goal 2 L net negative today
   - prednisone to 5 mg
   - MDIs
   - will check VBG
   # Nutrition: d/w with family re PEG.
   # Hyperglycemia: Steroids. On NPH.  Continue to monitor, consider
   increasing NPH.
   # Normocytic anemia:  Hct stable after pRBC [**2198-6-3**]. Large flank
   ecchymosis but CT abdomen negative for overt bleed. Heparin drip d/c
   # Hypertension: Stable. Persistently hypotensive after unresponsive
   event, required 20+ L fluids plus pressors. Now off pressors with
   episodes of hypertension.
   - Continue metoprolol, captopril and prn hydralazine.
   # Fungal skin infection: topical antifungals
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   # PPX PNB, PPI, ISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-9**] 04:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU for now

2198-06-11 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-9**]
   - Successful trach mask trial now off vent.
   [**6-10**]
   - on vent throughout day
   - lasix d/c'd
   - Family will be here around 1400 [**2198-6-11**]
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-6-10**] 12:00 PM
   Midazolam (Versed) - [**2198-6-11**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 94 (89 - 112) bpm
   BP: 92/40(52) {85/37(51) - 158/54(75)} mmHg
   RR: 28 (20 - 50) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
                  Total In:
                                                                  1,132 mL
                                                                    255 mL
   PO:
                  TF:
                                                                    802 mL
                                                                    255 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,920 mL
                                                                    440 mL
   Urine:
                                                                  3,920 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,788 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 311 (285 - 342) mL
   PS : 8 cmH2O
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.36/61/72/36/6
   Ve: 9.4 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen:  sitting up in chair,  unresponsive
   HEENT: Trach in place
   Chest: coarse bs bl R>L
   CV: RRR, S1S2
   Abd: soft, ND
   Neuro: unresponsive to voice or nailbed pressure
   Labs / Radiology
   227 K/uL
   9.5 g/dL
   179 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.6 mEq/L
   45 mg/dL
   104 mEq/L
   143 mEq/L
   28.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2198-6-7**]  03:19 AM
                             [**2198-6-7**]  05:20 PM
                             [**2198-6-7**]  05:27 PM
                             [**2198-6-8**]  04:15 AM
                             [**2198-6-8**]  05:40 PM
                             [**2198-6-9**]  05:59 AM
                             [**2198-6-9**]  07:38 AM
                             [**2198-6-10**]  03:13 AM
                             [**2198-6-10**]  10:55 PM
                             [**2198-6-11**]  04:38 AM
   WBC
   11.0
   10.8
   9.4
   9.2
   10.9
   Hct
   29.6
   29.9
   27.8
   29.0
   28.7
   Plt
   243
   214
   204
   226
   227
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   0.6
   TCO2
   40
   36
   Glucose
   163
   195
   131
   [**Telephone/Fax (3) 6471**]
   179
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Unresponsive events, AMS: most likely ACS with possible brain injury.
   - currently on medical management with asa, BB, statin, ACEi (heparin
   held for concern of active bleeding in setting of HCT drop and
   bruising).
   - leukocytosis resolved; cx NGTD; vanc and pip/tazo d/c
d [**2198-6-6**].
   - EEG nonspecific
   - head CT negative for lesion/bleed
   - consider family meeting to discuss goals of care
   - may consider neurology consult if no significant change by tomorrow
   # Respiratory Failure: h/o COPD, h/o unresponsiveness, s/p CMV now on
   CPAP. 3.2 L negative overnight, but continues to be volume overloaded
   (10lt+LOS).
   - successfully extubated [**6-9**]
   - diuresis, goal 2 L net negative today
   - prednisone to 5 mg
   - MDIs
   - will check VBG
   # Nutrition: d/w with family re PEG.
   # Hyperglycemia: Steroids. On NPH.  Continue to monitor, consider
   increasing NPH.
   # Normocytic anemia:  Hct stable after pRBC [**2198-6-3**]. Large flank
   ecchymosis but CT abdomen negative for overt bleed. Heparin drip d/c
   # Hypertension: Stable. Persistently hypotensive after unresponsive
   event, required 20+ L fluids plus pressors. Now off pressors with
   episodes of hypertension.
   - Continue metoprolol, captopril and prn hydralazine.
   # Fungal skin infection: topical antifungals
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   # PPX PNB, PPI, ISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-10**] 04:41 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-12 07:39:00 Physician Resident Progress Note
Chief Complaint: Multiorgan failure
   24 Hour Events:
 EKG - At [**2198-6-11**] 05:00 PM
   on neosynephrine, being weaned.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-12**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 106 (71 - 109) bpm
   BP: 121/39(59) {66/32(41) - 156/108(112)} mmHg
   RR: 11 (0 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,050 mL
                                                                    521 mL
   PO:
             TF:
                                                                    622 mL
                                                                    207 mL
   IVF:
                                                                  1,358 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    460 mL
   Urine:
                                                                  1,470 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 129 (129 - 272) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 7 L/min
   Physical Examination
   Gen:  sitting up in chair,  unresponsive
   HEENT: Trach in place
   Chest: coarse bs bl R>L
   CV: RRR, S1S2
   Abd: soft, ND
   Neuro: unresponsive to voice or nailbed pressure
   Ext:  1+ pitting edema
   Labs / Radiology
   246 K/uL
   8.1 g/dL
   458 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.2 mEq/L
   45 mg/dL
   98 mEq/L
   136 mEq/L
   27.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2198-6-7**]  05:20 PM
                             [**2198-6-7**]  05:27 PM
                             [**2198-6-8**]  04:15 AM
                             [**2198-6-8**]  05:40 PM
                             [**2198-6-9**]  05:59 AM
                             [**2198-6-9**]  07:38 AM
                             [**2198-6-10**]  03:13 AM
                             [**2198-6-10**]  10:55 PM
                             [**2198-6-11**]  04:38 AM
                             [**2198-6-12**]  05:12 AM
   WBC
   10.8
   9.4
   9.2
   10.9
   9.6
   Hct
   29.9
   27.8
   29.0
   28.7
   27.0
   Plt
   [**Telephone/Fax (3) 6547**]27
   246
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   40
   36
   Glucose
   195
   131
   210
   177
   175
   179
   458
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: cxr- effusions
   Microbiology: nothing new
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Unresponsive events, AMS: Most likely ACS with possible brain injury.
   Also with concern for VAP as increased LLL opacity on CXR.
   - Currently on medical management with asa, BB, statin, ACEi (heparin
   held for concern of active bleeding in setting of HCT drop and bruising
   and not consistently getting BB and ACEI given recent hypotension).
   - Given increased LLL opacity on CXR, will cover for VAP with
   vancomycin/zosyn.
   - check mini-BAL. Will not pursue bronchoscopy given pt
s small ETT
   (6).
   - EEG nonspecific
   - head CT negative for lesion/bleed
   - Have met with family to discuss goals of care.  Will continue
   updating family.
   # Respiratory Failure: CXR today with possible worsening opacities at
   LLL. h/o COPD, h/o unresponsiveness, s/p CMV now on CPAP. 3.2 L
   negative overnight, but continues to be volume overloaded (8.5L
   positive LOS).
   - Mini-BAL to help r/o VAP.
   - Holding diuresis as currently requiring pressors.
   - prednisone to 5 mg and nebs
   - will check VBG prn
   - continue prednisone
   # NSTEMI- continue asa, statin, ace, beta blocker, hold diuresis given
   hypotension
   .
   # Nutrition: Will continue to d/w with family re Doboff/PEG.
   # Hyperglycemia: Steroids. On NPH.  Continue to monitor, increase NPH
   to 6 units [**Hospital1 **].
   # Normocytic anemia:  Hct stable after pRBC [**2198-6-3**]. Large flank
   ecchymosis but CT abdomen negative for overt bleed. Heparin drip d/c
   # Hypertension: Now hypotensive on pressors.
   - Hold anti-hypertensives.
   - Wean pressors as tolerated.
   # Fungal skin infection: topical antifungals
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   # PPX PNB, PPI, ISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-10**] 04:41 PM 35 mL/hour
   Glycemic Control:  Increasing NPH as above for better glycemic control.
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-12**] 01:35 AM 35 mL/hour
   Glycemic Control:  insulin sliding scale. Will increase ISS given poor
   glycemic control.
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2198-06-13 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2198-6-12**] 03:16 PM
   on pressor, bronched, started on vanco/zosyn for likely pneumonia given
   chest film
   tightened glucose control
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-12**] 01:14 PM
   Vancomycin - [**2198-6-12**] 01:30 PM
   Piperacillin - [**2198-6-13**] 05:06 AM
   Infusions:
   Phenylephrine - 1.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-13**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 87 (72 - 103) bpm
   BP: 125/42(61) {90/31(46) - 136/49(68)} mmHg
   RR: 21 (0 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,111 mL
                                                                    641 mL
   PO:
             TF:
                                                                    752 mL
                                                                    248 mL
   IVF:
                                                                  1,299 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    270 mL
   Urine:
                                                                  1,510 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (350 - 360) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.36/73.[**Numeric Identifier 252**]/89.[**Numeric Identifier 299**]/36/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   7.8 g/dL
   375 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.0 mEq/L
   44 mg/dL
   100 mEq/L
   137 mEq/L
   25.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2198-6-8**]  05:40 PM
                             [**2198-6-9**]  05:59 AM
                             [**2198-6-9**]  07:38 AM
                             [**2198-6-10**]  03:13 AM
                             [**2198-6-10**]  10:55 PM
                             [**2198-6-11**]  04:38 AM
                             [**2198-6-12**]  05:12 AM
                             [**2198-6-12**]  05:54 PM
                             [**2198-6-13**]  05:15 AM
                             [**2198-6-13**]  06:18 AM
   WBC
   9.4
   9.2
   10.9
   9.6
   8.9
   9.5
   Hct
   27.8
   29.0
   28.7
   27.0
   23.5
   25.2
   Plt
   [**Telephone/Fax (3) 6561**]
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   36
   43
   Glucose
   [**Telephone/Fax (3) 6562**]79
   458
   375
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Respiratory Failure: VAP as well as underlying h/o COPD, h/o
   unresponsiveness, s/p CMV now on CPAP. 3.2 L negative overnight, but
   continues to be volume overloaded (9L positive LOS).
   - continue vanc/zosyn
   - prednisone to 5 mg and nebs
   - will check VBG prn
   - continue prednisone
   # Hypotension: Currently on pressor support.
   - Holding diuresis and anti HTN meds
   # Unresponsive state: Most likely ACS with possible brain injury.
   - Currently on medical management with asa, BB, statin, ACEi (heparin
   held for concern of active bleeding in setting of HCT drop and bruising
   and not consistently getting BB and ACEI given recent hypotension).
   - EEG nonspecific
   - head CT negative for lesion/bleed
   - Have met with family to discuss goals of care.  Will continue
   updating family. Based on current developments prognosis is poor.
   # Nutrition: Will continue to d/w with family re Doboff/PEG.
   # Hyperglycemia: Steroids. On NPH. Tighten control
   # Normocytic anemia:  Last pRBC [**2198-6-3**]. HCT stable. Large flank
   ecchymosis but CT abdomen negative for overt bleed. Heparin drip d/c
   # Fungal skin infection: topical antifungals
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   # PPX PNB, PPI, ISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-13**] 02:29 AM 35.[**Telephone/Fax (5) 6563**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-14 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2198-6-14**] 06:00 AM
   - spoke to family and they agreed with no escalation of care, likely
   CMO tomorrow pending follow-up discussion
   - increased FiO2 overnight for falling O2 sat; no increased secretions,
   did not pursue extensive eval
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2198-6-13**] 02:00 PM
   Vancomycin - [**2198-6-13**] 08:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-14**] 05:20 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-6-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-14**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 96 (71 - 100) bpm
   BP: 125/45(64) {94/28(44) - 136/51(71)} mmHg
   RR: 27 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,348 mL
                                                                    561 mL
   PO:
             TF:
                                                                    707 mL
                                                                    147 mL
   IVF:
                                                                  1,581 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  1,187 mL
                                                                    450 mL
   Urine:
                                                                  1,187 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,161 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: CMO
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 95%
   ABG: ///35/
   Ve: 8 L/min
   Physical Examination
   Gen:   unresponsive
   HEENT: Trach in place
   Chest: coarse bs bl R>L
   CV: RRR, S1S2
   Abd: soft, ND
   Neuro: unresponsive to voice or nailbed pressure
   Ext:  1+ pitting edema
   Labs / Radiology
   225 K/uL
   7.4 g/dL
   115 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   144 mEq/L
   22.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2198-6-9**]  05:59 AM
                             [**2198-6-9**]  07:38 AM
                             [**2198-6-10**]  03:13 AM
                             [**2198-6-10**]  10:55 PM
                             [**2198-6-11**]  04:38 AM
                             [**2198-6-12**]  05:12 AM
                             [**2198-6-12**]  05:54 PM
                             [**2198-6-13**]  05:15 AM
                             [**2198-6-13**]  06:18 AM
                             [**2198-6-14**]  03:00 AM
   WBC
   9.4
   9.2
   10.9
   9.6
   8.9
   9.5
   8.3
   Hct
   27.8
   29.0
   28.7
   27.0
   23.5
   25.2
   22.5
   Plt
   [**Telephone/Fax (3) 6561**]
   225
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   43
   Glucose
   177
   175
   179
   458
   375
   115
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Goals of care: CMO.
   # Respiratory Failure: VAP as well as underlying h/o COPD, h/o
   unresponsiveness, s/p CMV now on CPAP. 3.2 L negative overnight, but
   continues to be volume overloaded (10L positive LOS).
   - continue vanc/zosyn
   - prednisone to 5 mg and nebs
   - will check VBG prn
   - continue prednisone
   # Hypotension: Currently on pressor support.
   - Holding diuresis and anti HTN meds
   # Unresponsive state: Most likely ACS with possible brain injury.
   - Currently on medical management with asa, BB, statin, ACEi (heparin
   held for concern of active bleeding in setting of HCT drop and bruising
   and not consistently getting BB and ACEI given recent hypotension).
   - EEG nonspecific
   - head CT negative for lesion/bleed
   - Have met with family to discuss goals of care.  Will continue
   updating family. Based on current developments prognosis is poor.
   # Nutrition: Will continue to d/w with family re Doboff/PEG.
   # Hyperglycemia: Steroids. On NPH. Tighten control
   # Normocytic anemia:  Last pRBC [**2198-6-3**]. HCT down to 22.
   # Fungal skin infection: topical antifungals
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   # PPX PNB, PPI, ISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-14**] 12:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-06-15 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CMO today per fam mtg yesterday
   [** 6600**] declined
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2198-6-13**] 02:00 PM
   Vancomycin - [**2198-6-14**] 07:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-6-14**] 10:09 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-15**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 101 (84 - 111) bpm
   BP: 128/48(66) {109/34(54) - 147/55(76)} mmHg
   RR: 30 (0 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,394 mL
                                                                    370 mL
   PO:
             TF:
                                                                    725 mL
                                                                    241 mL
   IVF:
                                                                  1,669 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    275 mL
   Urine:
                                                                  1,260 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,134 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Gen:   unresponsive
   HEENT: Trach in place
   Chest: coarse bs bl R>L
   CV: RRR, S1S2
   Abd: soft, ND
   Neuro: unresponsive to voice or nailbed pressure
   Ext:  1+ pitting edema
   Labs / Radiology
   225 K/uL
   7.4 g/dL
   115 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   144 mEq/L
   22.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2198-6-9**]  05:59 AM
                             [**2198-6-9**]  07:38 AM
                             [**2198-6-10**]  03:13 AM
                             [**2198-6-10**]  10:55 PM
                             [**2198-6-11**]  04:38 AM
                             [**2198-6-12**]  05:12 AM
                             [**2198-6-12**]  05:54 PM
                             [**2198-6-13**]  05:15 AM
                             [**2198-6-13**]  06:18 AM
                             [**2198-6-14**]  03:00 AM
   WBC
   9.4
   9.2
   10.9
   9.6
   8.9
   9.5
   8.3
   Hct
   27.8
   29.0
   28.7
   27.0
   23.5
   25.2
   22.5
   Plt
   [**Telephone/Fax (3) 6561**]
   225
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   43
   Glucose
   177
   175
   179
   458
   375
   115
   Other labs: PT / PTT / INR:12.0/24.8/1.0, CK / CKMB /
   Troponin-T:121/4/0.11, ALT / AST:27/59, Alk Phos / T Bili:52/0.2,
   Amylase / Lipase:/131, Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5
   %, Eos:0.1 %, Fibrinogen:459 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:327 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   85 year old man BIBA with a hx of laryngeal CA s/p laryngectomy w/
   permanent tracheostomy p/w sudden unresponsiveness, refractory
   hypotension, ST elevation on EKG with troponin leak, with elevated WBC,
   possibly cardiogenic or septic shock, now with possible blood loss
   anemia.
   # Goals of care: poor prognosis, discussion with family, PCP,
   [**Name10 (NameIs) 6587**] today
   - CMO: family waiting for relatives to come and see
   - [**Name (NI) 6600**]: declined
   # Respiratory Failure: VAP as well as underlying h/o COPD, h/o
   unresponsiveness, s/p CMV now on CPAP. 3.2 L negative overnight, but
   continues to be volume overloaded (10L positive LOS).
   - continue vanc/zosyn, prednisone, nebs until final decision for CMO.
   # Hypotension: remains on pressors.
   - Holding diuresis and anti HTN meds
   # Unresponsive state: Most likely ACS with possible brain injury.
   - Currently on medical management with asa, BB, statin, ACEi (heparin
   held for concern of active bleeding in setting of HCT drop and bruising
   and not consistently getting BB and ACEI given recent hypotension).
   # Fungal skin infection: topical antifungals
   # FEN: IVF boluses PRN, NPO, replete lytes PRN
   # PPX PNB, PPI, ISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2198-6-15**] 12:51 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-6-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: